### ISSUE TITLE
BOOTSTRAP-0 detached review evidence (QB-001 and DEF-001)

### ISSUE THREAD

**Issue by jaumededios** [jaumededios/LMLF#1]
# BOOTSTRAP-0 publication evidence: QB-001 and DEF-001

This issue records the detached review evidence authorizing publication of the exact reviewed commit for [jaumededios/LMLF](https://github.com/jaumededios/LMLF). It is an evidence index, not a claim of Olver source coverage.

## Exact binding and decision

- Frozen specification/base: [`1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`](https://github.com/jaumededios/LMLF/commit/1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9)
- Reviewed and publication-authorized head: [`515b742f7ad5472c17cfdf0fda7cbc83c5585da1`](https://github.com/jaumededios/LMLF/commit/515b742f7ad5472c17cfdf0fda7cbc83c5585da1)
- Rejected predecessor: [`3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6`](https://github.com/jaumededios/LMLF/commit/3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6)
- Candidate tree: `1d7c671375da286295467428bf563b876dd1dc73`
- Deterministic candidate archive SHA-256: `707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4`
- Base-to-head full-index diff SHA-256: `4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102`
- Toolchain: Lean `4.33.1` via `leanprover/lean4:v4.33.1`, compiler commit `819816b2e0a3bf405af45ae5c7af2491d8f5bee6`
- Resolved Mathlib revision: `0df444a360eaa60ab8c11dca51a86af692955474`
- Final adjudication: both implementation-review gates and the exact-head merge gate are `pass`; no material finding remains open.

Any new commit invalidates this implementation authorization and requires fresh candidate-bound review.

## Reviewed surface: 12 semantic declarations and 9 audit declarations

QB-001 contributes eight semantic declarations:

1. `QuantitativeAnalysis.ErrorOn`
2. `QuantitativeAnalysis.NormBoundOn`
3. `QuantitativeAnalysis.HasErrorFamily`
4. `QuantitativeAnalysis.ErrorOn.exact`
5. `QuantitativeAnalysis.ErrorOn.restrict`
6. `QuantitativeAnalysis.ErrorOn.weaken`
7. `QuantitativeAnalysis.ErrorOn.trans`
8. `QuantitativeAnalysis.ErrorOn.comp`

DEF-001 contributes four semantic declarations:

1. `LMLF.Definitions.gamma_eulerIntegrable`
2. `LMLF.Definitions.gamma_eq_eulerIntegral`
3. `LMLF.Definitions.gamma_ofReal`
4. `LMLF.Definitions.gamma_neg_nat_eq_zero`

The separately built, downstream-only audit surface contains nine declarations:

- `LMLFTest.QB001.emptyDomain`
- `LMLFTest.QB001.exactZero`
- `LMLFTest.QB001.transSum`
- `LMLFTest.Definitions.Gamma.eulerIntegrable`
- `LMLFTest.Definitions.Gamma.eulerFormula`
- `LMLFTest.Definitions.Gamma.eulerAtOne`
- `LMLFTest.Definitions.Gamma.realAgreement`
- `LMLFTest.Definitions.Gamma.conjugation`
- `LMLFTest.Definitions.Gamma.poleTotalization`

The audit module consumes the semantic modules and is not imported by the semantic library root.

## Pre-Lean authorization evidence

Two distinct external reviewers approved the applicable pre-Lean gates. QB-001 has theorem-card `pass`, natural-language-proof `pass`, structural-circularity `not_required`, and composite `lean_ready: pass`. DEF-001 has theorem-card `pass`, natural-language-proof `not_required`, structural-circularity `not_required`, and composite `lean_ready: pass`.

All hashes below are ordinary SHA-256 digests of the detached artifact bytes.

| Artifact | SHA-256 |
|---|---|
| `prelean_green_k.md` | `a537ee0cf5f04ccacb475877c1e2443c9f2e3cded91ada44bd07ced4aa411fa4` |
| `prelean_green_l.md` | `7a616cb60f7e20dc398e60f206ab1db8ad56e7bb26e26b7271ae36191b9da1f0` |
| pre-Lean `QB-001-review-envelope.yaml` | `dbcf16abb033bfc87f353b75125470788c92b28580bf52ffc125bcf0d0a7562a` |
| pre-Lean `DEF-001-review-envelope.yaml` | `1cb983db8cb2affdab0d3628df5bcc61ea92006d3739edfa26a9ab5e69c89acf` |
| `prelean_authorization.md` | `f30686bd60e672f46a607d470f697ffa279944d8203d82a881dafe742c546194` |

## Proposer evidence and predecessor disposition

- Current proposer report `bootstrap_implementer.md`: `2fe11b62dca1a5994df3d3847097401a1dd9591651d4a5a54996643c95717aef`
- Predecessor disposition `predecessor_disposition.md`: `0d8689d1e8034d741591c2e980733805ce8294e58ff624bf57e1fde0275ad5f2`
- Rejected predecessor report `impl_review_m.md`: `5fb14c7d231e42b4c7bc0e88e524d60ac4f59b8a0b91eda095b368c44ee39faf`
- Rejected DEF source-fidelity verdict `DEF-001-source_fidelity-impl_review_m.json`: `782ad40feae664c72e5d4d01fbed2ec7a67e9c9262de51aa8eed73776d1e673c`
- Rejected DEF proof-quality verdict `DEF-001-proof_quality-impl_review_m.json`: `0dd92988e32127c6d2a2d0c4b9914179958461a9f98cf0bb3882d02034f82e0f`

The predecessor finding `M1` (P2) identified that `LMLFTest.Definitions.Gamma.eulerAtOne` bypassed the public `LMLF.Definitions.gamma_eq_eulerIntegral` wrapper. The superseding commit changes only `LMLF/Audit/Definitions.lean`; the repaired proof uses that public wrapper and `Complex.GammaIntegral_one`. Three fresh exact-head reviewers independently confirmed the repair, so the final external disposition is `resolved_by_fresh_approval`, not merely `fixed_pending_rereview`.

## Fresh implementation review

The distinct reviewer union is `/root/impl_final_p`, `/root/impl_final_q`, and `/root/impl_final_r`. Each was an independent fresh-session agent using `gpt-5.6-sol`, manual isolation attestation, and read-only disposable Git archives. All 24 candidate-bound structured verdicts are `approve` with empty findings. Each packet meets its overall minimum of three distinct reviewer IDs and every per-rubric minimum and allowed composition. The narratives also confirm the packet-level N/A rubrics: QB-001 `source_fidelity` and DEF-001 `quantitative_correctness`.

Narrative digests:

| Artifact | SHA-256 |
|---|---|
| `impl_final_p.md` | `7a151cb388222bbcb7fd7af4f87c134f79a066bd70207194e968c888320e588e` |
| `impl_final_q.md` | `f0e3980e32d1bbdefda9b27b5595bc159f5a9a8e202c2627f4c72303ad74f0d6` |
| `impl_final_r.md` | `8a249ffd749b00830f3db8874a2831cfe29cf9a75766b6834790c954def9126c` |

Structured verdict digests:

| Verdict artifact | SHA-256 |
|---|---|
| `QB-001-quantitative_correctness-impl_final_p.json` | `eb647f4edd5d5bbf8b84e4df6fce6899794a745ecb5d24dd2561992929d8d4ca` |
| `QB-001-quantitative_correctness-impl_final_q.json` | `9faf1c6b156efdaba64e16f3d850d274509421bb479acf0902413f79e7d31b7b` |
| `QB-001-quantitative_correctness-impl_final_r.json` | `34f741c4b95369f6d81d8f9286f6cb3f347a5be019b73ac90df698bad1d54657` |
| `QB-001-mathlib_reuse-impl_final_p.json` | `cef43a653d32dab3926742819691bf404d187628b5a6531e9842d321cfe29fd5` |
| `QB-001-mathlib_reuse-impl_final_q.json` | `a1b4f18d6f2ef6e023cecc5f3002143024662bab79d084c1c99ecf508c4a9ccc` |
| `QB-001-mathlib_reuse-impl_final_r.json` | `77071d2e39fab96f751a08285a451b262b8d4217311baf0cf5a4b0e04b1b7373` |
| `QB-001-api_dependency-impl_final_p.json` | `c6fb067dd158454c0a3d88b5b6b1799792f7106b757b01b30b238ecadd7413bb` |
| `QB-001-api_dependency-impl_final_q.json` | `46b993741c154cc0a2287ce05280981d80edf9e2bd49618ec8a655e50bca5c53` |
| `QB-001-api_dependency-impl_final_r.json` | `fc2f0d11775494a4b03ca195beddbb44c38cc6382cc6075602380906620ca931` |
| `QB-001-proof_quality-impl_final_p.json` | `6ed98829fc3bf3f6b2b2d52efa6ad7d0947a101fca3e909270969aba040c43b8` |
| `QB-001-proof_quality-impl_final_q.json` | `26af6816cbf62ea48886b34fbcc2558f148f39b84d8a5e2c266bd2082d6f3f39` |
| `QB-001-proof_quality-impl_final_r.json` | `e5ebbd74e1f6060fc8825cd98b0dc95238e58374ae3dcf28afde3cd747373ea8` |
| `DEF-001-source_fidelity-impl_final_p.json` | `e171267377733b6f6d8b6151a4cd8a071dd1481185b568d2a78d5b8ee692a985` |
| `DEF-001-source_fidelity-impl_final_q.json` | `4b4ca5b0305a16faf5fb95d2f5dddc0f2c561e03b588cf514f85340ae0731b43` |
| `DEF-001-source_fidelity-impl_final_r.json` | `f6562286553c45c9108b3eba1d59cff7dbdf88979a24c46f5653731511b6d560` |
| `DEF-001-mathlib_reuse-impl_final_p.json` | `331cc8dfce70b021ad7326d0daea1a579c17466f0a7e5b87a979ed3ee54b7dd1` |
| `DEF-001-mathlib_reuse-impl_final_q.json` | `3f67f9c01709e14e180dc8d26877b3a92375da10eb646e483590ada258c96126` |
| `DEF-001-mathlib_reuse-impl_final_r.json` | `828b4ce994ed6c20d5b82bcbe76e58ba08f2fb76434869c07f26edfd7c2fc137` |
| `DEF-001-api_dependency-impl_final_p.json` | `5fbc7101fe4dbc101371e1c63718382ddad56ca529e1737006ed460d2e712b98` |
| `DEF-001-api_dependency-impl_final_q.json` | `dcdc04e7d6e846f28658f768fbf310ab1d12176d61bf154916977fce2d0e7d0e` |
| `DEF-001-api_dependency-impl_final_r.json` | `90d36aac24ca8c74ae9b26b24dd9cf87a14ce21307a5d0a4e92091d7f4da3d11` |
| `DEF-001-proof_quality-impl_final_p.json` | `d52a0ef6889d45b078c53b3b35ddb2576371b8377dba9b1231b74434f76c21bc` |
| `DEF-001-proof_quality-impl_final_q.json` | `b96bda0c9f5ce07b5aafece3556ff5c1138753117fe556afb7713658016c631a` |
| `DEF-001-proof_quality-impl_final_r.json` | `96381daf9b23864054913b3c5f0759c5f17beff9e3379bcec370dad463eb686d` |

## Final detached adjudication artifacts

| Artifact | SHA-256 |
|---|---|
| candidate-bound `QB-001-review-envelope.yaml` | `702f37c934b7a22e35fe60ae66508db4f61df028b36ade99e9ee621e5252521e` |
| candidate-bound `DEF-001-review-envelope.yaml` | `61086fb9b90d760ccf1e8530cedded2ec8a460f3731a5954f50784d336447226` |
| `disposition_ledger.yaml` | `ce306517063be8e756ec478c6c0adc447e38ab2c9a01fa1acaff0a1ad2ec8624` |
| `merge_decision.md` | `eceb4cfa94732485fc2f07e82e02ac3f780e5fa194dd5068ff6f7f17c164678c` |

## Build, validator, signature, and trust results

- Exact-head repository status was clean, and HEAD was exactly `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`.
- Full builds succeeded in the independent review packages; reported job counts ranged from 2,748 to 2,756 according to cache state. Direct compilation of both semantic modules and the audit module also succeeded.
- Exact declaration counting found 8 QB and 4 DEF semantic declarations, with no extra semantic declaration forms.
- `scripts/validate_inventory.py` passed with 24 occurrences, 2 notations, 10 entities, 10 entity-evidence rows, and 16 occurrence associations.
- The negative validator suite rejected all 25 intentionally invalid fixtures.
- Exact `#check` signatures for all 12 declarations matched the frozen packet statements.
- `#print axioms` for all 12 declarations, and for the repaired `eulerAtOne` audit, reported only the frozen allowlist: `propext`, `Classical.choice`, and `Quot.sound`.
- Trust scans found no `sorry`, `admit`, undeclared `axiom`, `opaque`, or `unsafe`, and no duplicate project-local Gamma definition.
- The elaborated `eulerAtOne` proof term depends on both `LMLF.Definitions.gamma_eq_eulerIntegral` and `Complex.GammaIntegral_one`.

## Scope limit and locked 1997 Watson blocker

This BOOTSTRAP-0 publication receives **zero Olver source-coverage credit**. QB-001 is finite reusable error-bound infrastructure, and DEF-001 is a transparent wrapper layer around the pinned Mathlib Gamma object. Neither is an Olver theorem occurrence, a quantitative Olver result, qualitative source recovery, chapter coverage, or book coverage.

The first intended quantitative-Olver MVP remains blocked on `OLV97-C03-WATSON`: Watson's lemma as printed on pp. 71–72 of F. W. J. Olver, *Asymptotics and Special Functions*, corrected A K Peters reprint (1997), ISBN `1-56881-069-5`. `RQ-SRC-001` is still open because the locked-edition snapshot identity, printed label, complete proposition, notation/entity reconciliation, copyright-safe mathematical transcription with digest, and independent collation review are missing. The later 2010 preview and DLMF locator are corroborating leads only and cannot substitute for direct collation of the locked 1997 edition.

## Process attribution

The external-envelope and independent-rubric workflow is an original manual-first adaptation inspired by [Tau Ceti](https://github.com/TauCetiProject/TauCeti), [Tau Ceti Roadmap](https://github.com/TauCetiProject/TauCetiRoadmap), and [Tau Ceti Review](https://github.com/TauCetiProject/TauCetiReview). It does not copy their runner and does not equate manual isolation attestations with technically enforced clean-room isolation.

**Comment by jaumededios** [comment]
# Merge decision: BOOTSTRAP-0 candidate 515b742

- Decision: **pass; authorize publication of exact head `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`**
- Adjudicator: `/root/prelean_envelope`
- Issued UTC: `2026-09-05T20:35:44Z`
- Frozen specification/base: `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`
- Candidate tree: `1d7c671375da286295467428bf563b876dd1dc73`
- Candidate archive SHA-256: `707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4`
- Base-to-head full-index diff SHA-256: `4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102`
- Lean: `leanprover/lean4:v4.33.1` (Lean 4.33.1, compiler commit `819816b2e0a3bf405af45ae5c7af2491d8f5bee6`)
- Mathlib: `0df444a360eaa60ab8c11dca51a86af692955474`
- Proposer evidence: `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/bootstrap_implementer.md`, SHA-256 `2fe11b62dca1a5994df3d3847097401a1dd9591651d4a5a54996643c95717aef`

## Specification and pre-Lean authorization

QB-001 is bound to packet SHA-256 `7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39`, card R7, signature artifact R2, and NLP R6. DEF-001 is bound to packet SHA-256 `6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8` and card R4. Both bind classification artifact R2 SHA-256 `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9` and retain their passing external pre-Lean gates. The implementation verdicts were issued against the pre-adjudication candidate envelopes, QB SHA-256 `a04999c678029a8125a919893b202c6555ac04517e2511c5dd3695d587f9ca8d` and DEF SHA-256 `d482eb4e15125ce815bca407d0cabca3b52368695913fd3672a8889ba232ceb9`.

## Implementation quorum

The distinct reviewer union is `/root/impl_final_p`, `/root/impl_final_q`, and `/root/impl_final_r`: three independent fresh-session agents using model `gpt-5.6-sol`, each with `manual_attestation` isolation and read-only disposable Git archives. All 24 exact-head JSON verdicts are `approve` with empty findings.

- P narrative: `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/implementation-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/impl_final_p.md`, SHA-256 `7a151cb388222bbcb7fd7af4f87c134f79a066bd70207194e968c888320e588e`.
- Q narrative: `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/implementation-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/impl_final_q.md`, SHA-256 `f0e3980e32d1bbdefda9b27b5595bc159f5a9a8e202c2627f4c72303ad74f0d6`.
- R narrative: `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/implementation-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/impl_final_r.md`, SHA-256 `8a249ffd749b00830f3db8874a2831cfe29cf9a75766b6834790c954def9126c`.

Selected exact allowed compositions are:

- QB `quantitative_correctness`: P + Q, 0 humans / 2 agents / 1 distinct model minimum.
- QB `mathlib_reuse`: P, 0 humans / 1 agent / 1 distinct model minimum.
- QB `api_dependency`: Q, 0 humans / 1 agent / 1 distinct model minimum.
- QB `proof_quality`: R, 0 humans / 1 agent / 1 distinct model minimum.
- DEF `source_fidelity`: P + Q, 0 humans / 2 agents / 1 distinct model minimum.
- DEF `mathlib_reuse`: Q + R, 0 humans / 2 agents / 1 distinct model minimum.
- DEF `api_dependency`: P, 0 humans / 1 agent / 1 distinct model minimum.
- DEF `proof_quality`: R, 0 humans / 1 agent / 1 distinct model minimum.

Each packet's overall three-distinct-reviewer minimum is satisfied. All three narratives also confirm QB `source_fidelity` and DEF `quantitative_correctness` as packet-level not applicable.

## Surface, build, audit, and disposition

The exact public semantic surface is eight QB declarations and four DEF declarations with the frozen names, order, binders, domains, conclusions, and allowed axioms. The separate downstream audit contains nine regression theorems and is built but not imported by the semantic root. P, Q, and R independently report successful full builds (job-count variance 2748--2756), direct module compiles, exact signature and axiom checks, clean trust scans, positive inventory validation, and rejection of all 25 negative fixtures; these results are mutually coherent.

Predecessor finding M1 is terminally `resolved_by_fresh_approval`: all three fresh reviewers verified that `LMLFTest.Definitions.Gamma.eulerAtOne` now exercises `LMLF.Definitions.gamma_eq_eulerIntegral` and `Complex.GammaIntegral_one`. The disposition ledger is `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/disposition_ledger.yaml`, SHA-256 `ce306517063be8e756ec478c6c0adc447e38ab2c9a01fa1acaff0a1ad2ec8624`; it preserves the predecessor record and binds the fresh confirming verdicts.

## Authorization and limits

All pre-Lean, implementation-review, disposition, and merge conditions for these two packets pass. Publication is authorized only for exact candidate head `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`; any new commit requires fresh candidate-bound review.

This decision publishes finite reusable error-bound infrastructure and transparent wrappers around the pinned Mathlib Gamma object. It does **not** claim any Olver theorem occurrence, quantitative Olver result, named-source application, qualitative source recovery, chapter coverage, book coverage, or behavior of the Euler integral outside `0 < s.re`. `HasErrorFamily` still asserts no convergence or asymptotic expansion structure, and Mathlib's zero values at nonpositive integers remain explicitly totalization at classical poles.

**Comment by jaumededios** [comment]
# BOOTSTRAP-0 proposer evidence: `/root/bootstrap_implementer`

Status: clean frozen candidate commit awaiting fresh independent implementation review and release.
This is proposer evidence, not a referee verdict or merge authorization.

## Exact candidate binding

- Repository: `/home/codex/Documents/Codex/2026-09-05/yo`
- Branch: `main`
- Frozen specification / implementation base:
  `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`
- Rejected predecessor candidate: `3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6`
- Current candidate / head: `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`
- Current candidate parent: `3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6`
- Current candidate tree: `1d7c671375da286295467428bf563b876dd1dc73`
- Deterministic candidate archive SHA-256 (`git archive --format=tar HEAD`):
  `707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4`
- Exact full-index specification-base-to-head diff SHA-256:
  `4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102`
- Proposer ID: `/root/bootstrap_implementer`
- Lean: `4.33.1`, commit `819816b2e0a3bf405af45ae5c7af2491d8f5bee6`
- Resolved Mathlib checkout: `0df444a360eaa60ab8c11dca51a86af692955474`

Verification ran in the repository worktree after confirming it was a clean checkout of the exact
head. No clean rebuild was run for this evidence finalization; the predecessor had already passed a
fresh 2,748-job clean build, and the new head changes only one audit proof.

```text
$ git rev-parse HEAD
515b742f7ad5472c17cfdf0fda7cbc83c5585da1
$ git rev-parse HEAD^
3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6
$ git rev-parse 'HEAD^{tree}'
1d7c671375da286295467428bf563b876dd1dc73
$ git status --porcelain=v1
[exit 0; no output; clean worktree]
```

## Frozen specification and authorization binding

The frozen artifacts at the specification base reproduce these ordinary SHA-256 digests:

```text
7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39  review/work_packets/QB-001.yaml
6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8  review/work_packets/DEF-001.yaml
827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667  blueprint/theorem_cards/QB-001.yaml
93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39  blueprint/theorem_cards/QB-001-signatures.md
42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589  blueprint/proofs/QB-001.md
eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa  blueprint/theorem_cards/DEF-001.yaml
8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9  review/classifications-v2.json
```

External pre-Lean artifacts:

```text
dbcf16abb033bfc87f353b75125470788c92b28580bf52ffc125bcf0d0a7562a  QB-001-review-envelope.yaml
1cb983db8cb2affdab0d3628df5bcc61ea92006d3739edfa26a9ab5e69c89acf  DEF-001-review-envelope.yaml
f30686bd60e672f46a607d470f697ffa279944d8203d82a881dafe742c546194  prelean_authorization.md
```

All twelve structured pre-Lean verdict records and both reviewer narratives previously reproduced
the hashes recorded by the envelopes. QB-001 records theorem-card `pass`, required
natural-language-proof `pass`, structural `not_required`, and composite `lean_ready: pass`.
DEF-001 records theorem-card `pass`, natural-language-proof `not_required`, structural
`not_required`, and composite `lean_ready: pass`.

This command returned exit 0 with no output, proving that the candidate did not change a frozen
blueprint, review, validator, inventory, or CI path:

```text
$ git diff --exit-code 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9..515b742f7ad5472c17cfdf0fda7cbc83c5585da1 -- blueprint review scripts .github
[exit 0; no output]
```

## P2 disposition and predecessor relationship

The predecessor `3dbfcc8...` was rejected because
`LMLFTest.Definitions.Gamma.eulerAtOne` used only `Complex.Gamma_one` and did not exercise the
public wrapper `LMLF.Definitions.gamma_eq_eulerIntegral`. The current candidate changes exactly
that proof:

```text
$ git diff --name-status 3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6..515b742f7ad5472c17cfdf0fda7cbc83c5585da1
M  LMLF/Audit/Definitions.lean

$ git diff --stat 3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6..515b742f7ad5472c17cfdf0fda7cbc83c5585da1
LMLF/Audit/Definitions.lean | 3 ++-
1 file changed, 2 insertions(+), 1 deletion(-)
```

Accepted proof:

```lean
theorem eulerAtOne : Complex.Gamma 1 = 1 := by
  rw [LMLF.Definitions.gamma_eq_eulerIntegral (s := 1) (by norm_num)]
  simpa only [Complex.GammaIntegral] using Complex.GammaIntegral_one
```

The first line specializes the public Euler wrapper at `s = 1`. The second line checks the
resulting displayed integrand against Mathlib's canonical Euler-integral normalization. The
original name, theorem statement, namespace, imports, and semantic API are unchanged.

A broad terminal `simp` was also tested after the rewrite but rejected because it left
`∫ (t : ℝ) in Set.Ioi 0, Complex.exp (-↑t) = 1` unsolved. The explicit canonical theorem is
the verified replacement.

Predecessor evidence retained externally:

```text
6a8b940d31b5cd5363cbfcd2b8311745eb97904b0ec58cd684a64ab580e6d2ed  candidate-3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6/bootstrap_implementer.md
053c01cfd4dea90b22a70d5cbb0cc5a4f73e942aadc5d3b7467f73c6e18846ae  candidate-pending-v2/bootstrap_implementer.md
```

## Changed files and committed objects

Complete base-to-head path status:

```text
A  LMLF/Audit/Definitions.lean
M  LMLF/Definitions.lean
A  LMLF/Definitions/Gamma.lean
A  LMLF/Quantitative/Basic.lean
M  LMLF/Results.lean
M  README.md
M  lakefile.toml
```

Committed Git modes, object kinds, blob IDs, and paths:

```text
100644 blob bf1c148befa2ad4c0caaddcbfb384c21702d1b26  LMLF/Audit/Definitions.lean
100644 blob 1bfd4588fb1246bd630ae2fde22700a75648342d  LMLF/Definitions.lean
100644 blob c8f0e3ac7a5daaaa68f2ae938ca45c6fff6e87e7  LMLF/Definitions/Gamma.lean
100644 blob ebd06b8a8abd12986e70e09fa6182c9f919857f7  LMLF/Quantitative/Basic.lean
100644 blob 9c3ebd9f33fe3132e9b9c956576e17c9cea23680  LMLF/Results.lean
100644 blob 218c4acd3edd91a2d94471e93cbeb3cf1959f438  README.md
100644 blob 4118afade75495a60423509258692d54c996fa46  lakefile.toml
```

Ordinary SHA-256 hashes of the committed bytes:

```text
9494998c23a14af1815e2779e06d6a24986f80946c2a3218464530c3a50a78c6  LMLF/Audit/Definitions.lean
1627b2ea10bb50a660c8637dafd17348e0a4c7126dadf537afb4e7fab5053abe  LMLF/Definitions.lean
7e061d20e717939b11092f538f7471dc699ca3bf86c576a871ba61e685e7d660  LMLF/Definitions/Gamma.lean
85d6c94ea7c9e2322745d0c902fd0144369f34e8efc486a73c7290ec620f5c3a  LMLF/Quantitative/Basic.lean
0cf4a1c67640cb5d0d0ea66f3353f9e0ab574c77b8346e68afc69edfe33f315f  LMLF/Results.lean
1945b536047d31b185cf771794d11add44457cb737237fff544f99ab1536a86c  README.md
787bac6de4002b375a6bfbc840589d72ea3e1f2a440a33352973f268815da562  lakefile.toml
```

Base-to-head summary:

```text
LMLF/Audit/Definitions.lean  | 72 ++++++++++++++++++++++++++++++++++++++++++++
LMLF/Definitions.lean        |  4 +--
LMLF/Definitions/Gamma.lean  | 39 ++++++++++++++++++++++++
LMLF/Quantitative/Basic.lean | 68 +++++++++++++++++++++++++++++++++++++++++
LMLF/Results.lean            |  3 +-
README.md                    | 28 +++++++++--------
lakefile.toml                | 10 +++++-
7 files changed, 208 insertions(+), 16 deletions(-)
```

## Public semantic and audit declarations

QB-001, in frozen order:

1. `QuantitativeAnalysis.ErrorOn`
2. `QuantitativeAnalysis.NormBoundOn`
3. `QuantitativeAnalysis.HasErrorFamily`
4. `QuantitativeAnalysis.ErrorOn.exact`
5. `QuantitativeAnalysis.ErrorOn.restrict`
6. `QuantitativeAnalysis.ErrorOn.weaken`
7. `QuantitativeAnalysis.ErrorOn.trans`
8. `QuantitativeAnalysis.ErrorOn.comp`

DEF-001, in frozen order:

1. `LMLF.Definitions.gamma_eulerIntegrable`
2. `LMLF.Definitions.gamma_eq_eulerIntegral`
3. `LMLF.Definitions.gamma_ofReal`
4. `LMLF.Definitions.gamma_neg_nat_eq_zero`

Audit-only declarations:

- `LMLFTest.QB001.emptyDomain`
- `LMLFTest.QB001.exactZero`
- `LMLFTest.QB001.transSum`
- `LMLFTest.Definitions.Gamma.eulerIntegrable`
- `LMLFTest.Definitions.Gamma.eulerFormula`
- `LMLFTest.Definitions.Gamma.eulerAtOne`
- `LMLFTest.Definitions.Gamma.realAgreement`
- `LMLFTest.Definitions.Gamma.conjugation`
- `LMLFTest.Definitions.Gamma.poleTotalization`

Source counting found exactly eight declarations in `LMLF/Quantitative/Basic.lean` and exactly four
in `LMLF/Definitions/Gamma.lean`, with no extra semantic declaration form.

## Validation results

The predecessor candidate passed a fresh `lake clean` followed by a complete 2,748-job build. At
the exact current head, the following incremental checks were rerun without another clean rebuild.

Exact module compiles:

```text
$ lake env lean LMLF/Quantitative/Basic.lean
[exit 0; no output]
$ lake env lean LMLF/Definitions/Gamma.lean
[exit 0; no output]
$ lake env lean LMLF/Audit/Definitions.lean
[exit 0; no output]
```

Full target build:

```text
$ lake build
Build completed successfully (2748 jobs).
```

Inventory validator:

```text
$ python3 scripts/validate_inventory.py
inventory validation passed: 24 occurrences, 2 notations, 10 entities, 10 entity evidence rows, 16 occurrence associations; classification examples [DEF-001, OLV-001, QB-001, QL-001, SR-001]; manifest totals [BOOTSTRAP-0=0, DEMO-0=0, OLV-MVP-1=1]
$ python3 scripts/validate_inventory.py --negative-tests
negative invariant tests passed: 25 intentionally invalid copied fixtures rejected
inventory validation passed: 24 occurrences, 2 notations, 10 entities, 10 entity evidence rows, 16 occurrence associations; classification examples [DEF-001, OLV-001, QB-001, QL-001, SR-001]; manifest totals [BOOTSTRAP-0=0, DEMO-0=0, OLV-MVP-1=1]
```

Whitespace check:

```text
$ git diff --check 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9..515b742f7ad5472c17cfdf0fda7cbc83c5585da1
[exit 0; no output]
```

Trust-boundary and duplicate-implementation searches:

```text
$ rg -n '\b(sorry|admit|axiom|opaque|unsafe)\b' LMLF/Quantitative/Basic.lean LMLF/Definitions/Gamma.lean LMLF/Audit/Definitions.lean
[exit 1; no matches]
$ rg -n '(^|[^[:alnum:]_])(def|abbrev|opaque)\s+[^\n]*Gamma|Complex\.Gamma\s*:=' LMLF
[exit 1; no matches]
```

Semantic declaration counts:

```text
$ rg -c '^\s*(def|theorem)\s+' LMLF/Quantitative/Basic.lean
8
$ rg -c '^\s*(def|theorem)\s+' LMLF/Definitions/Gamma.lean
4
```

## Exact signature and axiom checks

Command: `lake env lean /tmp/lmlf_bootstrap_checks.lean`. The checker imported `LMLF.Results`,
issued `#check @...` for all twelve semantic declarations, and issued `#print axioms ...` for all
twelve.

```text
@QuantitativeAnalysis.ErrorOn : {X : Type u_1} →
  {E : Type u_2} → [NormedAddCommGroup E] → Set X → (X → E) → (X → E) → (X → ℝ) → Prop
@QuantitativeAnalysis.NormBoundOn : {X : Type u_1} →
  {E : Type u_2} → [NormedAddCommGroup E] → Set X → (X → E) → (X → ℝ) → Prop
@QuantitativeAnalysis.HasErrorFamily : {X : Type u_1} →
  {E : Type u_2} → [NormedAddCommGroup E] → (X → E) → (ℕ → X → E) → (ℕ → Set X) → (ℕ → X → ℝ) → Prop
@QuantitativeAnalysis.ErrorOn.exact : ∀ {X : Type u_1} {E : Type u_2} [inst : NormedAddCommGroup E] {D : Set X}
  {f a : X → E}, Set.EqOn f a D → QuantitativeAnalysis.ErrorOn D f a fun x => 0
@QuantitativeAnalysis.ErrorOn.restrict : ∀ {X : Type u_1} {E : Type u_2} [inst : NormedAddCommGroup E] {D D' : Set X}
  {f a : X → E} {b : X → ℝ}, QuantitativeAnalysis.ErrorOn D f a b → D' ⊆ D → QuantitativeAnalysis.ErrorOn D' f a b
@QuantitativeAnalysis.ErrorOn.weaken : ∀ {X : Type u_1} {E : Type u_2} [inst : NormedAddCommGroup E] {D : Set X}
  {f a : X → E} {b d : X → ℝ},
  QuantitativeAnalysis.ErrorOn D f a b → (∀ x ∈ D, b x ≤ d x) → QuantitativeAnalysis.ErrorOn D f a d
@QuantitativeAnalysis.ErrorOn.trans : ∀ {X : Type u_1} {E : Type u_2} [inst : NormedAddCommGroup E] {D : Set X}
  {f a c : X → E} {b d : X → ℝ},
  QuantitativeAnalysis.ErrorOn D f a b →
    QuantitativeAnalysis.ErrorOn D a c d → QuantitativeAnalysis.ErrorOn D f c fun x => b x + d x
@QuantitativeAnalysis.ErrorOn.comp : ∀ {X : Type u_1} {Y : Type u_2} {E : Type u_3} [inst : NormedAddCommGroup E]
  {D : Set X} {f a : X → E} {b : X → ℝ},
  QuantitativeAnalysis.ErrorOn D f a b →
    ∀ {S : Set Y} (ψ : Y → X), Set.MapsTo ψ S D → QuantitativeAnalysis.ErrorOn S (f ∘ ψ) (a ∘ ψ) (b ∘ ψ)
@LMLF.Definitions.gamma_eulerIntegrable : ∀ {s : ℂ},
  0 < s.re → MeasureTheory.IntegrableOn (fun t => ↑(Real.exp (-t)) * ↑t ^ (s - 1)) (Set.Ioi 0) MeasureTheory.volume
@LMLF.Definitions.gamma_eq_eulerIntegral : ∀ {s : ℂ},
  0 < s.re → Complex.Gamma s = ∫ (t : ℝ) in Set.Ioi 0, ↑(Real.exp (-t)) * ↑t ^ (s - 1)
LMLF.Definitions.gamma_ofReal : ∀ (s : ℝ), Complex.Gamma ↑s = ↑(Real.Gamma s)
LMLF.Definitions.gamma_neg_nat_eq_zero : ∀ (n : ℕ), Complex.Gamma (-↑n) = 0
```

These reproduce the frozen binder order, implicitness, domains, majorants, integral normalization,
real coercions, and exceptional-value statement.

Complete semantic axiom output:

```text
'QuantitativeAnalysis.ErrorOn' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.NormBoundOn' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.HasErrorFamily' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.ErrorOn.exact' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.ErrorOn.restrict' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.ErrorOn.weaken' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.ErrorOn.trans' depends on axioms: [propext, Classical.choice, Quot.sound]
'QuantitativeAnalysis.ErrorOn.comp' depends on axioms: [propext, Classical.choice, Quot.sound]
'LMLF.Definitions.gamma_eulerIntegrable' depends on axioms: [propext, Classical.choice, Quot.sound]
'LMLF.Definitions.gamma_eq_eulerIntegral' depends on axioms: [propext, Classical.choice, Quot.sound]
'LMLF.Definitions.gamma_ofReal' depends on axioms: [propext, Classical.choice, Quot.sound]
'LMLF.Definitions.gamma_neg_nat_eq_zero' depends on axioms: [propext, Classical.choice, Quot.sound]
```

Every reported axiom is on the frozen allowlist; no other axiom appears.

## Verified normalization proof dependency

Command: `lake env lean /tmp/lmlf_euler_dependency.lean`. The checker imported
`LMLF.Audit.Definitions`, printed `eulerAtOne`, and printed its axioms.

```text
theorem LMLFTest.Definitions.Gamma.eulerAtOne : Complex.Gamma 1 = 1 :=
Eq.mpr
  (id
    (congrArg (fun _a => _a = 1)
      (LMLF.Definitions.gamma_eq_eulerIntegral (of_eq_true (Eq.trans zero_lt_one._simp_1 (eq_true True.intro))))))
  Complex.GammaIntegral_one
'LMLFTest.Definitions.Gamma.eulerAtOne' depends on axioms: [propext, Classical.choice, Quot.sound]
```

The elaborated proof term explicitly depends on both the public LMLF Euler wrapper and Mathlib's
normalized Euler integral result. Its axioms are exactly within the approved allowlist.

## Import direction

```text
LMLF/Basic.lean:import Mathlib.Analysis.Normed.Group.Basic
LMLF/Quantitative/Basic.lean:import LMLF.Basic
LMLF/Definitions/Gamma.lean:import Mathlib.Analysis.SpecialFunctions.Gamma.Basic
LMLF/Definitions.lean:import LMLF.Definitions.Gamma
LMLF/Results.lean:import LMLF.Definitions
LMLF/Results.lean:import LMLF.Quantitative.Basic
LMLF/Audit/Definitions.lean:import LMLF.Definitions
LMLF/Audit/Definitions.lean:import LMLF.Quantitative.Basic
LMLF.lean:import LMLF.Basic
LMLF.lean:import LMLF.Definitions
LMLF.lean:import LMLF.Results
```

Semantic flow is foundation/dependency to definitions and results. The audit module only consumes
semantic modules; no semantic module and no `LMLF.lean` imports the audit module.

## Known limitations

- Fresh implementation review, exact candidate-envelope binding, disposition confirmation, merge
  authorization, and release remain pending. The immutable pre-Lean envelopes intentionally retain
  null candidate bindings; this report binds proposer evidence to the exact implementation head.
- QB-001 is finite-bound infrastructure only. `HasErrorFamily` asserts no convergence, asymptotic
  expansion structure, monotonicity, or source coverage.
- DEF-001 only wraps the pinned Mathlib Gamma object. It does not construct a new Gamma function,
  extend Euler's integral beyond `0 < s.re`, or treat totalized zeros as classical finite pole
  values.
- The audit module is intentionally outside the semantic import root and is a separately built
  regression consumer, not public semantic API.
- All exact-head checks recorded here completed without warnings or errors.

## Exact specification-base-to-head diff

Command:

```text
git diff --full-index --no-ext-diff 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9..515b742f7ad5472c17cfdf0fda7cbc83c5585da1
```

Output:

````diff
diff --git a/LMLF/Audit/Definitions.lean b/LMLF/Audit/Definitions.lean
new file mode 100644
index 0000000000000000000000000000000000000000..bf1c148befa2ad4c0caaddcbfb384c21702d1b26
--- /dev/null
+++ b/LMLF/Audit/Definitions.lean
@@ -0,0 +1,72 @@
+import LMLF.Definitions
+import LMLF.Quantitative.Basic
+
+/-!
+# Definition audits
+
+This separately built consumer expands the Gamma identification theorem and records inexpensive
+checks of the conventions inherited from Mathlib.  It is deliberately not imported by the semantic
+library root.
+
+These checks audit the selected Mathlib object.  They do not resolve the blueprint's outstanding
+source-wide questions about Olver's analytic continuation and exceptional-value conventions.
+-/
+
+namespace LMLFTest.QB001
+
+open QuantitativeAnalysis
+
+/-- Empty-domain semantics remain vacuous. -/
+theorem emptyDomain {X E : Type*} [NormedAddCommGroup E]
+    (f a : X → E) (b : X → ℝ) : ErrorOn (∅ : Set X) f a b := by
+  intro x hx
+  exact hx.elim
+
+/-- Equality on the domain produces exactly the zero majorant. -/
+theorem exactZero {X E : Type*} [NormedAddCommGroup E]
+    {D : Set X} {f a : X → E} (h : Set.EqOn f a D) :
+    ErrorOn D f a (fun _ ↦ 0) := by
+  exact ErrorOn.exact h
+
+/-- Transitivity exposes the sum majorant in the conclusion. -/
+theorem transSum {X E : Type*} [NormedAddCommGroup E]
+    {D : Set X} {f a c : X → E} {b d : X → ℝ}
+    (hfa : ErrorOn D f a b) (hac : ErrorOn D a c d) :
+    ErrorOn D f c (fun x ↦ b x + d x) := by
+  exact ErrorOn.trans hfa hac
+
+end LMLFTest.QB001
+
+namespace LMLFTest.Definitions.Gamma
+
+/-- The integrand in the public Euler formula is integrable on its stated half-plane. -/
+theorem eulerIntegrable {s : ℂ} (hs : 0 < s.re) :
+    MeasureTheory.IntegrableOn
+      (fun x : ℝ ↦ (Real.exp (-x) : ℂ) * (x : ℂ) ^ (s - 1)) (Set.Ioi 0) := by
+  exact LMLF.Definitions.gamma_eulerIntegrable hs
+
+/-- Expanded regression check for the public Euler-integral identification. -/
+theorem eulerFormula {s : ℂ} (hs : 0 < s.re) :
+    Complex.Gamma s =
+      ∫ x : ℝ in Set.Ioi 0, (Real.exp (-x) : ℂ) * (x : ℂ) ^ (s - 1) := by
+  exact LMLF.Definitions.gamma_eq_eulerIntegral hs
+
+/-- The Euler normalization gives `Gamma 1 = 1`. -/
+theorem eulerAtOne : Complex.Gamma 1 = 1 := by
+  rw [LMLF.Definitions.gamma_eq_eulerIntegral (s := 1) (by norm_num)]
+  simpa only [Complex.GammaIntegral] using Complex.GammaIntegral_one
+
+/-- The complex and real Mathlib Gamma functions agree on real inputs. -/
+theorem realAgreement (s : ℝ) : Complex.Gamma (s : ℂ) = Real.Gamma s := by
+  exact LMLF.Definitions.gamma_ofReal s
+
+/-- Gamma respects complex conjugation. -/
+theorem conjugation (s : ℂ) :
+    Complex.Gamma (starRingEnd ℂ s) = starRingEnd ℂ (Complex.Gamma s) := by
+  exact Complex.Gamma_conj s
+
+/-- Mathlib totalizes Gamma to zero at every nonpositive integer. -/
+theorem poleTotalization (n : ℕ) : Complex.Gamma (-(n : ℂ)) = 0 := by
+  exact LMLF.Definitions.gamma_neg_nat_eq_zero n
+
+end LMLFTest.Definitions.Gamma
diff --git a/LMLF/Definitions.lean b/LMLF/Definitions.lean
index 9026419baab1d798648c36868b8bf375b026267d..1bfd4588fb1246bd630ae2fde22700a75648342d 100644
--- a/LMLF/Definitions.lean
+++ b/LMLF/Definitions.lean
@@ -1,7 +1,7 @@
-import LMLF.Basic
+import LMLF.Definitions.Gamma
 
 /-!
 # LMLF.Definitions
 
-Empty semantic umbrella reserved for accepted definitions.
+Public umbrella for candidate semantic definitions.
 -/
diff --git a/LMLF/Definitions/Gamma.lean b/LMLF/Definitions/Gamma.lean
new file mode 100644
index 0000000000000000000000000000000000000000..c8f0e3ac7a5daaaa68f2ae938ca45c6fff6e87e7
--- /dev/null
+++ b/LMLF/Definitions/Gamma.lean
@@ -0,0 +1,39 @@
+import Mathlib.Analysis.SpecialFunctions.Gamma.Basic
+
+/-!
+# The complex Gamma function
+
+LMLF reuses `Complex.Gamma`; it does not define a second Gamma function.  The theorems below make
+its Euler integral, convergence domain, real agreement, and totalization at nonpositive integers
+available through the definitions API.
+
+This is an identification with the Euler integral only when `0 < s.re`.  It does not assert that
+the integral defines Gamma outside that half-plane.
+-/
+
+namespace LMLF.Definitions
+
+/-- Euler's integrand for `s` is integrable on the positive real axis when `0 < re s`. -/
+theorem gamma_eulerIntegrable {s : ℂ} (hs : 0 < s.re) :
+    MeasureTheory.IntegrableOn
+      (fun t : ℝ ↦ (Real.exp (-t) : ℂ) * (t : ℂ) ^ (s - 1))
+      (Set.Ioi 0) := by
+  exact Complex.GammaIntegral_convergent hs
+
+/-- On the half-plane `0 < re s`, Mathlib's complex Gamma function is Euler's integral. -/
+theorem gamma_eq_eulerIntegral {s : ℂ} (hs : 0 < s.re) :
+    Complex.Gamma s =
+      ∫ t in Set.Ioi (0 : ℝ), (Real.exp (-t) : ℂ) * (t : ℂ) ^ (s - 1) := by
+  simpa only [Complex.GammaIntegral] using Complex.Gamma_eq_integral hs
+
+/-- Mathlib's complex and real Gamma functions agree on every real input. -/
+theorem gamma_ofReal (s : ℝ) :
+    Complex.Gamma (s : ℂ) = (Real.Gamma s : ℂ) := by
+  exact Complex.Gamma_ofReal s
+
+/-- Mathlib totalizes Gamma to zero at its poles at the nonpositive integers. -/
+theorem gamma_neg_nat_eq_zero (n : ℕ) :
+    Complex.Gamma (-(n : ℂ)) = 0 := by
+  exact Complex.Gamma_neg_nat_eq_zero n
+
+end LMLF.Definitions
diff --git a/LMLF/Quantitative/Basic.lean b/LMLF/Quantitative/Basic.lean
new file mode 100644
index 0000000000000000000000000000000000000000..ebd06b8a8abd12986e70e09fa6182c9f919857f7
--- /dev/null
+++ b/LMLF/Quantitative/Basic.lean
@@ -0,0 +1,68 @@
+import LMLF.Basic
+
+/-!
+# Foundational quantitative predicates
+
+Finite pointwise error and norm bounds, together with their basic transport rules.
+-/
+
+namespace QuantitativeAnalysis
+
+variable {X Y E : Type*} [NormedAddCommGroup E]
+
+/-- `ErrorOn D f a b` means that `a` approximates `f` with pointwise error at most `b` on `D`. -/
+def ErrorOn (D : Set X) (f a : X → E) (b : X → ℝ) : Prop :=
+  ∀ x ∈ D, ‖f x - a x‖ ≤ b x
+
+/-- `NormBoundOn D f b` means that the norm of `f` is pointwise at most `b` on `D`. -/
+def NormBoundOn (D : Set X) (f : X → E) (b : X → ℝ) : Prop :=
+  ∀ x ∈ D, ‖f x‖ ≤ b x
+
+/-- A family of finite pointwise error estimates for one fixed target function. -/
+def HasErrorFamily
+    (f : X → E) (a : ℕ → X → E)
+    (D : ℕ → Set X) (b : ℕ → X → ℝ) : Prop :=
+  ∀ n, ErrorOn (D n) f (a n) (b n)
+
+namespace ErrorOn
+
+/-- Functions equal on a domain have zero error there. -/
+theorem exact {D : Set X} {f a : X → E} (h : Set.EqOn f a D) :
+    ErrorOn D f a (fun _ ↦ 0) := by
+  intro x hx
+  simpa only [h hx, sub_self, norm_zero] using (le_refl (0 : ℝ))
+
+/-- An error bound restricts to a smaller domain. -/
+theorem restrict {D D' : Set X} {f a : X → E} {b : X → ℝ}
+    (h : ErrorOn D f a b) (hD : D' ⊆ D) :
+    ErrorOn D' f a b := by
+  intro x hx
+  exact h x (hD hx)
+
+/-- An error bound remains valid after pointwise enlargement of its majorant. -/
+theorem weaken {D : Set X} {f a : X → E} {b d : X → ℝ}
+    (h : ErrorOn D f a b) (hbd : ∀ x ∈ D, b x ≤ d x) :
+    ErrorOn D f a d := by
+  intro x hx
+  exact (h x hx).trans (hbd x hx)
+
+/-- Successive error bounds compose with the sum of their majorants. -/
+theorem trans {D : Set X} {f a c : X → E} {b d : X → ℝ}
+    (hfa : ErrorOn D f a b) (hac : ErrorOn D a c d) :
+    ErrorOn D f c (fun x ↦ b x + d x) := by
+  intro x hx
+  calc
+    ‖f x - c x‖ = ‖(f x - a x) + (a x - c x)‖ := by rw [sub_add_sub_cancel]
+    _ ≤ ‖f x - a x‖ + ‖a x - c x‖ := norm_add_le _ _
+    _ ≤ b x + d x := add_le_add (hfa x hx) (hac x hx)
+
+/-- An error bound pulls back along a map into its original domain. -/
+theorem comp {D : Set X} {f a : X → E} {b : X → ℝ}
+    (h : ErrorOn D f a b) {S : Set Y} (ψ : Y → X)
+    (hψ : Set.MapsTo ψ S D) :
+    ErrorOn S (f ∘ ψ) (a ∘ ψ) (b ∘ ψ) := by
+  intro y hy
+  exact h (ψ y) (hψ hy)
+
+end ErrorOn
+end QuantitativeAnalysis
diff --git a/LMLF/Results.lean b/LMLF/Results.lean
index b1d1361f4e3f7621f084e814411ddbbc092d02ee..9c3ebd9f33fe3132e9b9c956576e17c9cea23680 100644
--- a/LMLF/Results.lean
+++ b/LMLF/Results.lean
@@ -1,7 +1,8 @@
 import LMLF.Definitions
+import LMLF.Quantitative.Basic
 
 /-!
 # LMLF.Results
 
-Empty semantic umbrella reserved for accepted results.
+Public umbrella for candidate semantic results.
 -/
diff --git a/README.md b/README.md
index c986bcb66f8efae45a19aaf529321d773aee8486..218c4acd3edd91a2d94471e93cbeb3cf1959f438 100644
--- a/README.md
+++ b/README.md
@@ -8,12 +8,12 @@ specifications, and release gates.
 
 ## Current status
 
-The repository is at the specification stage. No semantic declaration has passed the project's
-acceptance gates, so the public Lean modules currently provide package structure only. QB-001 and
-DEF-001 remain specification work items awaiting their required external pre-Lean,
-implementation-review, and release gates. The source ledgers are initial audit seeds, not a
-complete source inventory, and the project claims no quantitative Olver theorem or source coverage
-yet.
+The repository contains a candidate implementation of the externally authorized BOOTSTRAP-0
+packets QB-001 and DEF-001. The candidate exposes foundational finite-error predicates and transport
+lemmas and transparent wrappers around Mathlib's Gamma function. It is awaiting implementation
+review and release; these declarations must not yet be described as accepted or released. The
+source ledgers are initial audit seeds, not a complete source inventory, and the project claims no
+quantitative Olver theorem or source coverage yet.
 
 Planning and review artifacts are kept explicit:
 
@@ -25,12 +25,16 @@ Planning and review artifacts are kept explicit:
 ## Library layout
 
 - `LMLF/Basic.lean` provides narrow shared imports for foundational quantitative algebra.
-- `LMLF/Definitions.lean` is an empty public umbrella reserved for accepted definitions.
-- `LMLF/Results.lean` is an empty public umbrella reserved for accepted semantic results.
-- `LMLF.lean` imports the public package modules.
-
-The `LMLF` library target lists only these public modules. Keep semantic dependencies flowing from
-shared foundations to definitions to results.
+- `LMLF/Definitions/Gamma.lean` provides the four candidate wrappers around `Complex.Gamma`.
+- `LMLF/Quantitative/Basic.lean` provides the eight candidate finite-error declarations.
+- `LMLF/Definitions.lean` and `LMLF/Results.lean` are the public semantic umbrellas.
+- `LMLF/Audit/Definitions.lean` is a separately built regression consumer and is not imported by
+  `LMLF.lean`.
+- `LMLF.lean` imports only the public semantic package modules.
+
+The `LMLF` library target explicitly lists both semantic and audit modules. Semantic dependencies
+flow from shared foundations to definitions and results; the audit module only consumes semantic
+modules.
 
 ## Getting started
 
diff --git a/lakefile.toml b/lakefile.toml
index 640bae6c00a26f8bf19e4140d8af152a40e63bc9..4118afade75495a60423509258692d54c996fa46 100644
--- a/lakefile.toml
+++ b/lakefile.toml
@@ -18,4 +18,12 @@ rev = "v4.33.1"
 
 [[lean_lib]]
 name = "LMLF"
-globs = ["LMLF", "LMLF.Basic", "LMLF.Definitions", "LMLF.Results"]
+globs = [
+  "LMLF",
+  "LMLF.Basic",
+  "LMLF.Definitions",
+  "LMLF.Definitions.Gamma",
+  "LMLF.Quantitative.Basic",
+  "LMLF.Results",
+  "LMLF.Audit.Definitions",
+]
````

**Comment by jaumededios** [comment]
# Final independent pre-Lean review: `prelean_green_k`

- Review verdict: **APPROVE**
- Architecture verdict: **APPROVE**
- Reviewed commit: `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`
- Reviewed tree: `33932352e1d514cbd604a16a947dfc6d99d80a97`
- Review time: `2026-09-05T18:44:10Z`
- Reviewer ID: `/root/prelean_green_k`
- Model: `gpt-5.6-sol`
- Review stage: final pre-Lean
- Isolation strength: `manual_attestation`

No P0, P1, or P2 finding remains. I found no actionable P3 issue either. Under the requested rule, the absence of P0/P1/P2 permits the overall **APPROVE** verdict.

## Snapshot and isolation

I reviewed only a disposable `git archive` of the exact commit plus the exact pinned Mathlib dependency checkout. The source worktree was not switched or edited. `git status --short` showed two untracked directories, `LMLF/Audit/` and `LMLF/Definitions/`; I did not read either directory or any other dirty/untracked source-worktree file. I did not read `blueprint/reviews/QB-001-rev3.md` or any other prior review report. Disposable compile and mutation fixtures were created only under `/tmp/prelean-green-k.ApChrc` and are not repository evidence.

This was a fresh manual session in an unrestricted Codex runtime, not a technically enforced clean room. No source PDF bytes were available to the inventory validator. That isolation and source-byte limitation are material boundaries of this report.

The supplied blueprint attachment was read completely. Its SHA-256 is `6787cdb628a66783d81190939e9593525ebb2640a8c870d685d95ce26ba0cce3`.

## Gate verdicts

| Scope | This referee's verdict | Composite/external state |
|---|---|---|
| Whole modular blueprint, governance, status model, classifications, gates, DAG, pins, and source-manifest design | **APPROVE** | Architecture is coherent and honestly specification-only. |
| QB-001 theorem card revision 7 | **APPROVE** | One reviewer approval; external theorem-card composite gate remains for the adjudicator. |
| QB-001 natural-language proof revision 6 | **APPROVE** | One reviewer approval; external proof composite gate remains for the adjudicator. |
| QB-001 structural-circularity applicability | **CONFIRM `not_applicable`** | The frozen reason is sound; an external envelope should record `not_required`, not `pass`. |
| QB-001 `lean_ready` | **NOT SET** | Remains externally controlled and cannot be established by this report alone. |
| DEF-001 theorem card revision 4 | **APPROVE** | One reviewer approval; external theorem-card composite gate remains for the adjudicator. |
| DEF-001 natural-language-proof applicability | **CONFIRM `not_applicable`** | The four targets are transparent wrappers around specifically pinned facts; an external envelope should record `not_required`. |
| DEF-001 structural-circularity applicability | **CONFIRM `not_applicable`** | No construction, continuation, existence/uniqueness selection, theorem-sized hypothesis object, or new Gamma object occurs; an external envelope should record `not_required`. |
| DEF-001 `lean_ready` | **NOT SET** | Remains externally controlled and cannot be established by this report alone. |
| Implementation, implementation review, merge, and release | **NOT APPLICABLE/PENDING** | Exact commit contains no semantic implementation, and these downstream gates were not advanced. |

External `lean_ready` adjudication is **supported but not completed**. This report may count as one distinct reviewer ID for the exact bindings below. Both packets require at least two distinct reviewer IDs overall and for theorem-card review; QB-001 also requires two for its natural-language proof. Therefore an external adjudicator may set `lean_ready: pass` only after another independent approval for the same exact artifacts, a valid external envelope binds the specification commit and packet digests, both structural/NLP inapplicability decisions are explicitly mirrored as `not_required` where applicable, dependency availability is confirmed, and no adverse verdict remains. This report does not itself set or authorize `lean_ready`.

## Architecture, governance, and source controls

The architecture implements the attachment's intended separation: narrow foundations; definitions/identifications; generic finite methods; exact-source generic or named applications; downstream zeros/connections; and separately built qualitative source-recovery audits. Forbidden reverse dependencies, fixed-solution quantifiers, hypothesis/choice laundering, branch/totalization boundaries, domain reachability, majorant nonnegativity, and numerical exclusions are consistently called out. Planning queues are explicitly non-authorizing, provisional IDs are not confused with registered cards, and the Watson critical path excludes unrelated Airy/Cauchy/ODE work.

Status axes remain orthogonal. `BOOTSTRAP-0` is closed and `execution_ready` with exactly QB-001 and DEF-001 and zero source occurrences; that manifest status is not treated as Lean authorization. `DEMO-0` is open/planning-only. `OLV-MVP-1` has one locked selection but remains open/planning-only because the locked 1997 Watson occurrence, transcription, notation/entity links, snapshot, page audit, and source recovery are unresolved. The repository claims no Olver theorem coverage.

The v2 classification authority is internally consistent, separates packet theorem shape from packet coverage role and target-level axes, preserves frozen v1 rather than mutating it, and marks five registry examples `required` while keeping `NAMED-EXAMPLE` illustrative. Required registry rows match all three frozen packet axes.

The dependency pins agree across `lean-toolchain`, `lakefile.toml`, `lake-manifest.json`, both packets, and the pinned dependency checkout: Lean `v4.33.1`, requested Mathlib `v4.33.1`, resolved Mathlib commit `0df444a360eaa60ab8c11dca51a86af692955474`.

All eight global library-review rubric sections and all eight local proof-review rubric sections were clear: mathematical intent, reusable seams, public API, module direction, Mathlib integration, proof architecture, cost/durability, refactor risk, trust, mathematical skeleton, reuse/search, tactic robustness, goal/simplifier hygiene, golfing, performance, and presentation. There is no implementation to refactor or locally golf at this commit.

## Inventory-validator evidence and independent attacks

The positive validator passed with 24 occurrences, 2 notations, 10 entities, 10 entity-evidence rows, 16 occurrence associations, and manifest source totals `BOOTSTRAP-0=0`, `DEMO-0=0`, `OLV-MVP-1=1`.

The built-in negative suite passed all **25** intentionally invalid copied fixtures. I also constructed a separate, disposable synthetically source-ready closure and independently attacked it. Seventeen rejecting mutations passed, covering:

- open/ready manifest inconsistency and unlocked source selection;
- absence of the same-manifest exact-or-named role and absence of the same-manifest source-recovery role;
- both exact-target/coverage and source-recovery/coverage role mismatches;
- laundering either required role through a ready card in another manifest;
- missing or arbitrary canonical card artifacts;
- self-reviewed, non-covering, and wrong-snapshot page audits;
- in-place promotion of the reserved placeholder;
- malformed/uppercase source and transcription hashes; and
- occurrence/snapshot edition mismatch and distinct-ready-snapshot joins within one edition.

The checks correctly require ready, canonical, same-manifest exact/named and source-recovery cards for a closed source-bearing manifest. They do not accept `generic_dependency` as source credit and do not treat same-edition snapshots as identical.

The manual source-digest caveat is verified. The CSV validator validates recorded digest syntax and readiness metadata, but it cannot recompute or certify inaccessible licensed source bytes. A syntactically valid replacement SHA-256 in the synthetic fixture remains accepted. The blueprint states this limitation explicitly and correctly reserves byte truth, actual inspection, YAML/Markdown lifecycle bindings, artifact-content joins, review quorums, and external-envelope validation for external/manual evidence or future tooling. This is an acknowledged authority boundary, not a green source-certification result.

## QB-001 revision 7 / proof revision 6 / packet revision 4 / signatures revision 2

The four artifacts bind exactly eight public declarations under only `import LMLF.Basic`: `ErrorOn`, `NormBoundOn`, `HasErrorFamily`, `ErrorOn.exact`, `.restrict`, `.weaken`, `.trans`, and `.comp`. Target IDs, declaration names, classifications, and proof sections match. Each of the eight normative proof anchors occurs exactly once. The dossier's global scope rule makes every non-anchor statement and all later algebra/product/family material prospective; no ninth target is authorized.

The mathematics is correct. The definitions state precisely their advertised pointwise contracts. Exactness uses equality and norm zero; restriction uses set inclusion; weakening uses order transitivity; transitivity uses the exact additive decomposition and the norm triangle inequality; and precomposition uses `Set.MapsTo`. `HasErrorFamily` fixes the target and asserts neither finite-sum structure nor convergence/order improvement. Empty-domain behavior and signed-majorant limitations are handled honestly.

A disposable file reproducing the exact declaration order and types with concrete proof terms compiled successfully. `#print axioms` for all eight declarations reported exactly `[propext, Classical.choice, Quot.sound]`, matching the packet allowlist. One stylistic linter warning arose only in my disposable proof spelling and has no bearing on the frozen specification or a candidate implementation.

The structural gate is genuinely inapplicable: this packet contains direct definitions and elementary set/norm transports, no source identification, construction, continuation, choice, hidden desired bound, or dependency cycle.

## DEF-001 revision 4 / packet revision 3

The card and packet bind exactly four declarations in `LMLF.Definitions.Gamma`, importing only `Mathlib.Analysis.SpecialFunctions.Gamma.Basic`: Euler-integrand integrability on `0 < s.re`, Euler-integral equality on that domain, real agreement, and zero totalization at `-(n : ℂ)`. The domain, positive-real integration path, complex-power convention, real restriction, and the distinction between totalized zero and a classical pole are explicit. No second Gamma object, analytic continuation, reciprocal Gamma, incomplete Gamma, or asymptotic result enters the scope.

The exact local Mathlib source was inspected at resolved commit `0df444a360eaa60ab8c11dca51a86af692955474`. Its `Gamma/Basic.lean` SHA-256 is `720a9a72d742fbe1c9a89601dc3a00d82c0261c7368c98cccb58307dbffe3bbf`, matching the packet. All four proposed signatures and thin proof terms compiled. Their axiom reports were exactly `[propext, Classical.choice, Quot.sound]`.

Natural-language proof review is properly inapplicable because the card binds four exact, non-novel pinned-library wrappers and introduces no new mathematical route. Structural review is also properly inapplicable for the reasons in the gate table.

## No implementation at the reviewed commit

The tracked Lean tree contains only `LMLF.lean`, `LMLF/Basic.lean`, `LMLF/Definitions.lean`, and `LMLF/Results.lean`. A commit-scoped search found no tracked `def`, `abbrev`, `theorem`, `lemma`, `instance`, `structure`, `class`, `inductive`, `axiom`, `opaque`, `unsafe`, `sorry`, `admit`, or `implemented_by`. `LMLF.Definitions` and `LMLF.Results` remain empty umbrellas. The public package build succeeded, but that is package-structure evidence only and not semantic implementation or review authorization.

## Exact artifact digests

| Artifact | SHA-256 |
|---|---|
| `review/classifications-v2.json` | `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9` |
| `blueprint/theorem_cards/QB-001.yaml` | `827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667` |
| `blueprint/proofs/QB-001.md` | `42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589` |
| `blueprint/theorem_cards/QB-001-signatures.md` | `93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39` |
| `review/work_packets/QB-001.yaml` | `7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39` |
| `blueprint/theorem_cards/DEF-001.yaml` | `eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa` |
| `review/work_packets/DEF-001.yaml` | `6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8` |
| `scripts/validate_inventory.py` | `69393ef7abff9ed0d3c7248b0ae056e4dc695ae121fd3c6962e9c970fa76bd93` |
| `lean-toolchain` | `3aac669c7a910ec2389f4e4f921b605adf6ebf2d1e0c9b9cd0be4d33f3f5db71` |
| `lakefile.toml` | `c7bb53018e97237f83c740be3e0e42cb9d848097fe20b894cef4e69ba145962b` |
| `lake-manifest.json` | `4bd9b595f84163f69bdb0ffc9b1a876b5df71d65bdd53122415610d083d43404` |

## Commands rerun

```text
git status --short
git rev-parse HEAD
git worktree list --porcelain
git log -5 --oneline --decorate --no-show-signature
git archive 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9 | tar -x -C <disposable-directory>
bash /home/codex/.codex/skills/referee-lean-library/scripts/library_inventory.sh <archive>
rg --files -uu
sha256sum <reviewed artifacts, attachment, pins, validator, and pinned Gamma source>
python3 scripts/validate_inventory.py
python3 scripts/validate_inventory.py --negative-tests
python3 IndependentValidatorAttack.py
lake build
lake env lean QB001Compile.lean
lake env lean DEF001Compile.lean
git grep -n -E <semantic-declaration-pattern> 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9 -- '*.lean'
git grep -n -E <trust-marker-pattern> 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9 -- '*.lean'
```

Results: archive inventory completed; positive validator passed; all 25 built-in negative tests passed; all 17 independent mutation attacks passed; public build completed successfully (`1325 jobs`); both exact-signature compile checks succeeded; all 12 checked declarations had only the allowed foundational axioms; commit-scoped implementation/trust-marker searches returned no matches.

## Final decision

**APPROVE** the exact frozen pre-Lean specification at commit `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`. This approval is confined to architecture/governance and the exact QB-001 and DEF-001 pre-Lean artifacts above. It grants no Olver source coverage, implementation approval, merge approval, or release status, and it does not set `lean_ready`.

The complete-file SHA-256 must be recorded externally after this file is finalized; embedding that value in the bytes it hashes would be self-referential. The detached full-file digest is supplied in the task handoff.

**Comment by jaumededios** [comment]
# Independent final pre-Lean referee report: `prelean_green_l`

## Review identity and scope

- Reviewer ID: `prelean_green_l` (Codex task `/root/prelean_green_l`)
- Model: OpenAI Codex, GPT-5 family; the runtime did not expose a more specific deployment identifier, so none is invented here.
- Issued UTC: `2026-09-05T18:47:18Z`
- Verdict target: exact commit `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`
- Commit tree: `33932352e1d514cbd604a16a947dfc6d99d80a97`
- Parent: `3fa70a7e482ddfe03d3db77262f534dcd4b56a7e`
- Commit subject: `test: enforce source manifest role closure`
- Repository: `/home/codex/Documents/Codex/2026-09-05/yo`
- Olver brief: `/home/codex/.codex/attachments/6740fc8c-818a-4ce2-95bb-67293a5ba2bf/pasted-text.txt`, SHA-256 `6787cdb628a66783d81190939e9593525ebb2640a8c870d685d95ce26ba0cce3`
- Report SHA-256: reported externally after finalization; embedding the full-file digest in this file would be self-referential.

This is a fresh-context, read-only pre-Lean review. I applied the complete `referee-lean-library` protocol first and then the complete `referee-lean-proof` protocol. The repository candidate was not edited.

### Isolation attestation

Isolation strength is `manual_attestation`, not `technically_enforced`. I created `/tmp/olver-prelean-green-l.PGneE5` solely by streaming `git archive` from the exact commit, before inspecting candidate contents. The archive contained no `.git` metadata. Builds, independent Lean reconstructions, dependency checkout, synthetic card files, and validator mutations occurred only in that disposable archive. The archive's initial 76-file SHA-256 manifest has digest `ba0c16b25e2795ab8fbf0e2fe76093ff42782a3e608490b2a1799937b42cb80c`.

I did not read the dirty/live worktree contents, any untracked prototype, any other reviewer output, or the historical `blueprint/reviews/QB-001-rev3.md`. The historical filename and digest appear in normative current artifacts, but the historical report itself was excluded. Network access and the broader filesystem were technically available, so this review does not claim hardened clean-room isolation.

## Verdicts

| Review object | Exact binding | Verdict |
|---|---|---|
| Overall architecture and pre-Lean package | commit `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9` | **approve** |
| QB theorem card | `QB-001`, card revision 7, SHA-256 `827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667` | **approve** |
| QB natural-language proof | `NLP-QB-001-R6`, revision 6, SHA-256 `42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589` | **approve** |
| QB structural/circularity applicability | work packet revision 4 | **confirm `not_applicable`; external gate should be `not_required`** |
| DEF theorem card | `DEF-001`, card revision 4, SHA-256 `eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa` | **approve** |
| DEF natural-language-proof applicability | work packet revision 3 | **confirm `not_applicable`; external gate should be `not_required`** |
| DEF structural/circularity applicability | work packet revision 3 | **confirm `not_applicable`; external gate should be `not_required`** |

No actionable `G#` architecture finding or `L#` local-proof finding remains. I found no P0--P3 defect requiring a specification change. The explicit manual boundaries below are accurately disclosed by the repository and are not represented as implemented automation.

### External `lean_ready` adjudication

**Yes: the reviewed evidence permits external `lean_ready` adjudication for both QB-001 and DEF-001, without this report setting either gate.** This report supplies one independent fresh-context approval covering the QB card and QB proof, one independent approval covering the DEF card, and confirmation of the frozen inapplicability reasons. An external adjudicator must still bind this report/verdict and the other required independent verdict(s) to the exact specification commit, work-packet digests, upstream artifact revisions/digests, classification digest, toolchain, and durable reviewer IDs; verify the required distinct-ID compositions and absence of adverse verdicts; mirror the applicable `not_applicable` fields as `gate_state: not_required`; and only then decide the composite gate. I did not inspect another review and therefore do not independently assert that the external quorum has already been assembled.

## Architecture and governance audit

### Layering and planning taxonomy

The plan faithfully refines the Olver brief into the following forward-only architecture:

```text
pinned Lean/Mathlib + locked source evidence
  -> finite quantitative core / low-level branch support
  -> constructions (only when reuse is insufficient)
  -> conventional definitions and proved identification
  -> generic finite methods
  -> exact-source generic theorems or discharged named applications
  -> Audit/SourceRecovery qualitative bridges
  -> catalogue and closed-release evidence
```

The forbidden reverse directions are explicit: the quantitative core does not import named functions; constructions do not import estimates that consume them; residual identities are not solution estimates; semantic modules do not import audits or tactics; and qualitative source recovery is a downstream, separately built consumer. The Watson critical path is narrow and correctly excludes Airy, Cauchy transport, ODE, transitions, zeros/connections, and tactics.

The taxonomy is appropriately orthogonal:

- packet and declaration theorem shape are separate from coverage role and novelty;
- `exact_source_generic`, `named_source_application`, and `audit_source_recovery` are coverage roles, not theorem shapes;
- specification, proof, review, implementation, prototype, coverage, and manifest membership have distinct state axes;
- packet-local concepts (`ErrorOn`, `NormBoundOn`, `HasErrorFamily`) are not laundered into source-entity inventory;
- provisional planning IDs are repeatedly disclaimed as neither cards nor authorization;
- overlapping coarse and granular future handles such as `DEF-002` versus `DEF-AIR-*` are explicitly flagged for reconciliation before registration.

This matches the brief's finite-inequality core, definitions/identification gate, source-faithful but downstream qualitative layer, exact constant/domain policy, and rejection of premature universal typeclasses or tactics.

### Truthful current state

The current state is stated literally and consistently:

- `BOOTSTRAP-0` is closed and `execution_ready` only in the sense of bounded specification membership; it has zero source occurrences and does not authorize Lean.
- QB-001 is frozen at card R7, proof R6, signatures R2, with review and implementation `not_started` in candidate-owned metadata.
- DEF-001 is frozen at card R4, has proof `not_required`, review/implementation `not_started`, and prototype `absent` in this exact snapshot.
- `OLV-MVP-1` has a locked one-occurrence selection but open scope, planning-only cards, an uninspected 1997 placeholder, and no source credit.
- The 2010 preview is assigned a distinct edition/snapshot. Its relation to the locked 1997 edition is unresolved on content and page locators and consequently `join_semantics: non_equivalent`.
- No Olver quantitative theorem, named source application, qualitative recovery, chapter, or book coverage is claimed.

### Exact source-evidence and manifest joins

The normalized tables explicitly model editions, edition relations, source snapshots, page audits, occurrences, notation, entities and entity evidence, cards, manifests, and all many-to-many associations. The positive validator run reports 24 occurrences, 2 notations, 10 entities, 10 entity-evidence rows, 16 associations, and manifest totals `BOOTSTRAP-0=0`, `DEMO-0=0`, `OLV-MVP-1=1`.

For source-ready records the validator requires a non-placeholder available snapshot, verified lowercase SHA-256 metadata, matched edition reconciliation and page mapping, independently reviewed complete page audit, verified occurrence transcription and reconciliation, and direct source evidence. It rejects same-edition joins between distinct snapshots because this schema has no snapshot-equivalence relation. Cross-edition joins require both ready snapshots plus one deterministic fully matched content-and-page edition relation marked equivalent.

For every closed or ready source-bearing manifest, it enforces all of the requested closure conditions:

1. occurrence selection is locked;
2. each source-coverage occurrence is source-ready;
3. all manifest member cards have ready status and a file at the canonical `blueprint/theorem_cards/<id>.yaml` path;
4. the occurrence has a confirmed, same-manifest ready canonical card pairing of either `exact_source_target` with `exact_source_generic` or `named_application` with `named_source_application`; and
5. the occurrence also has a confirmed, same-manifest ready canonical `source_recovery` / `audit_source_recovery` card.

Confirmed roles in another manifest cannot satisfy those checks.

The built-in suite passed all 25 intentionally invalid copied fixtures. I additionally constructed a full synthetic transition from the current planning state to a source-ready, closed, `execution_ready` manifest and exercised seven composed cases:

- positive: same-manifest `exact_source_generic` plus `audit_source_recovery` with locked selection and canonical ready card paths;
- positive: same-manifest `named_source_application` alternative plus `audit_source_recovery`;
- negative: unlocked ready source selection;
- negative: missing confirmed exact-source/named-application role;
- negative: missing confirmed source-recovery role;
- negative: both valid roles exist only in another manifest;
- negative: the same-manifest exact-source card points away from its canonical path.

Both positives passed and all five negatives produced the required diagnostics. Thus the composed state transition and anti-laundering logic—not merely isolated field checks—behaved as specified.

### Residual manual boundary

The remaining automation boundary is material but accurately documented. The current validator checks CSV structure and relational metadata; it does not prove that an inaccessible source digest names the inspected bytes, parse or semantically validate the YAML/Markdown cards and proofs, compare card contents with their registry rows, validate card/work-packet revisions and digests, authenticate reviewer identities, calculate quorum, validate an instantiated external envelope, or inspect Lean declarations. The synthetic positive transition confirms that a canonical card check means path plus file existence, not valid card contents. Page-audit and reviewer identifiers are also assertions until externally authenticated.

Those facts are not a hidden green-light path: the README, protocol, source-manifest policy, function-inventory specification, cards, packets, CI plan, and validator all say that these broader checks remain manual/planned and that passing inventory validation establishes neither source truth nor review/authorization. This report therefore treats them as the declared human adjudication boundary, not as automated certification.

## QB-001 card and proof audit

### Frozen binding

- Card R7: `827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667`
- Signature artifact R2: `93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39`
- Natural-language proof R6: `42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589`
- Work packet R4: `7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39`
- Classification authority R2: `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9`

All embedded current-artifact hashes and revisions reproduce exactly. The classification authority's superseded-v1 digest also reproduces as `7a4f322bb56dbb40d5d44a7eceb50b5a49ea6ae69f414b920341e3b12ea9d71e`.

### Independent mathematical rederivation

The eight-target boundary is exact and stable: three definitions and five lemmas, with no ninth declaration authorized.

- `ErrorOn` is exactly the pointwise inequality `forall x in D, norm (f x - a x) <= b x`.
- `NormBoundOn` is exactly `forall x in D, norm (f x) <= b x`.
- `HasErrorFamily` fixes one target `f` outside the order quantifier and only packages order-indexed finite bounds. It implies neither a finite-sum representation nor convergence, monotonicity, domain reachability, or inter-order compatibility.
- `ErrorOn.exact` follows from `Set.EqOn`, subtraction of equal values, and norm zero. No arbitrary signed majorant is smuggled in.
- `.restrict` uses only the forward inclusion `D' subset D`; the reverse direction is correctly rejected.
- `.weaken` has the required direction `b <= d` on exactly the conclusion domain.
- `.trans` uses the exact identity `f-c = (f-a)+(a-c)`, the norm triangle inequality, and pointwise addition of the two majorants. Neither maximum nor one bound alone suffices.
- `.comp` is precomposition and requires exactly `Set.MapsTo psi S D`; it assumes no injectivity, surjectivity, continuity, or derivative data.

Empty generic domains are intentionally permitted. Any satisfied error bound already entails pointwise majorant nonnegativity on its domain, but the definition does not assert unrelated global nonnegativity. `NormedAddCommGroup E` is a natural stable analysis boundary for these declarations. The dossier's many later algebraic observations are unmistakably labelled prospective and are excluded by the normative anchor table, card, signature artifact, and packet.

### Independent Lean reconstruction

I independently supplied proof bodies for the exact eight signatures in a disposable `QB001Independent.lean`, importing only `LMLF.Basic`. It compiled with no diagnostics under the pinned toolchain. The file digest was `1716c40bd0b8e16101b9d9bf5f3dec74260b6ab201323be1eb4c9c113abfa536`.

`#print axioms` for all eight declarations reported exactly:

```text
[propext, Classical.choice, Quot.sound]
```

This is precisely the packet allowlist. There was no `sorry`, `admit`, custom axiom, `unsafe`, heartbeat override, extra import, or extra public declaration.

### QB structural-gate judgment

The frozen `not_applicable` reason is sound. QB-001 defines three elementary predicates and proves direct set/order/norm transports; it constructs or identifies no source or named object, performs no continuation or existence/uniqueness selection, uses no choice, asserts no source coverage, and introduces no record capable of hiding a model, contour, normalization, or desired named estimate. Although later theorems may take `ErrorOn` as an explicit hypothesis, that is the transparent proposition being reasoned about, not a laundering structure. Later exact-source and named cards remain responsible for discharging their concrete hypotheses. The external envelope should record `structural_circularity_review.applicability: not_applicable` and `gate_state: not_required` with the frozen packet reason.

## DEF-001 card audit

### Frozen binding and pin

- Card R4: `eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa`
- Work packet R3: `6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8`
- Classification authority R2: `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9`
- Toolchain: `leanprover/lean4:v4.33.1`; observed Lean commit `819816b2e0a3bf405af45ae5c7af2491d8f5bee6`
- Requested Mathlib tag: `v4.33.1`
- Resolved Mathlib commit: `0df444a360eaa60ab8c11dca51a86af692955474`
- Pinned source: `Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean`
- Pinned source SHA-256: `720a9a72d742fbe1c9a89601dc3a00d82c0261c7368c98cccb58307dbffe3bbf`

The checked-out dependency HEAD and source-file digest exactly match the packet. `lake update` in the disposable archive preserved `lake-manifest.json` digest `4bd9b595f84163f69bdb0ffc9b1a876b5df71d65bdd53122415610d083d43404`.

### Exact four-wrapper rederivation

The pinned source contains all four named facts with the required orientations:

- `Complex.GammaIntegral_convergent` has the complex Euler integrand and hypothesis `0 < s.re`;
- `Complex.Gamma_eq_integral` concludes `Complex.Gamma s = Complex.GammaIntegral s` on that half-plane;
- `Complex.Gamma_ofReal` gives complex/real agreement for every real input;
- `Complex.Gamma_neg_nat_eq_zero` records Mathlib's totalization at `-(n : ℂ)`.

I independently implemented the exact proposed wrappers in disposable `DEF001Independent.lean`, importing only `Mathlib.Analysis.SpecialFunctions.Gamma.Basic`. Both expanded-integrand wrappers close by definitional simplification of the pinned declarations; the real-agreement and pole-totalization wrappers close directly. The file compiled cleanly and has SHA-256 `057d56d3ab4995d70798573b3739c2b7f2056bd594853ba8afb0f82314b9ff28`.

All four `#print axioms` reports were exactly:

```text
[propext, Classical.choice, Quot.sound]
```

The card correctly restricts the Euler formula to `0 < s.re`, makes the positive-real integration path/complex-power convention visible, distinguishes totalized zero from a classical finite pole value (including `n = 0`), reuses rather than duplicates `Complex.Gamma`, and claims entity-identification infrastructure but no Olver occurrence.

### DEF proof and structural-gate judgments

The natural-language-proof gate is correctly `not_applicable`: these are transparent presentational wrappers around four exact, specifically pinned facts, with no new mathematical argument. The external envelope should mirror it as `gate_state: not_required` with the frozen reason; it must not fabricate an empty proof artifact.

The structural/circularity gate is also correctly `not_applicable`: the packet introduces no new function, series, integral construction, analytic continuation, existence/uniqueness identification, hidden choice, theorem-sized hypothesis record, or asymptotic dependency. It imports the narrow pinned Gamma module and exports four one-way wrappers. The external gate should be `not_required` with the frozen reason.

## Pins, build, and absence of implementation

The project pins Lean in `lean-toolchain`, Mathlib by tag in `lakefile.toml`, and the resolved dependency graph in `lake-manifest.json`. GitHub Actions pins `actions/checkout` to `fbc6f3992d24b796d5a048ff273f7fcc4a7b6c09` and `leanprover/lean-action` to `50fcf42d2e460296f1a34b402e990d1b24f8b596`; direct `git ls-remote` checks confirmed those exact objects are the current `v5` and `v1` tag refs respectively. The CI plan truthfully disclaims the moving `ubuntu-latest` OS image as non-hermetic.

`lake build` at the archived commit completed successfully (`1325 jobs`; public modules `LMLF.Basic`, `LMLF.Definitions`, `LMLF.Results`, and `LMLF`). This is only a stub-package build, exactly as documented.

The exact commit contains only these Lean files:

```text
LMLF.lean
LMLF/Basic.lean
LMLF/Definitions.lean
LMLF/Results.lean
```

They total 30 lines. A declaration scan found zero `def`, `theorem`, `lemma`, `axiom`, `opaque`, `structure`, `class`, or `instance` declarations and zero trust/resource markers. Their SHA-256 digests are:

```text
8451f612d9f9ba7fee64ecbc678df5d76b0b56f422c506582eb514e1148154d9  LMLF.lean
3ceac6d68d0e3dac83238b3a6d8c7e826fff35b2d19ebf70556ff86d7ad1b38a  LMLF/Basic.lean
d2e4402e02427d84e1fb6e865c957186028e886a8ee75a316cdf19b2ab54d95d  LMLF/Definitions.lean
17e05adfe200215a653defcb7d6edaa7b0058e0227ac25f86b9c06a8c5d5a070  LMLF/Results.lean
```

Therefore the exact commit contains no QB-001 implementation, no DEF-001 implementation or prototype, and no semantic implementation of any later plan. The recorded `not_started`/`absent` statuses are truthful.

## Reproducible commands and results

The material checks were:

```bash
git -C /home/codex/Documents/Codex/2026-09-05/yo rev-parse '1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9^{commit}'
git -C /home/codex/Documents/Codex/2026-09-05/yo show -s --format='%H%n%T%n%P%n%aI%n%cI%n%s' 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9
git -C /home/codex/Documents/Codex/2026-09-05/yo archive 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9 | tar -x -C /tmp/olver-prelean-green-l.PGneE5
/home/codex/.codex/skills/referee-lean-library/scripts/library_inventory.sh /tmp/olver-prelean-green-l.PGneE5
python3 scripts/validate_inventory.py
python3 scripts/validate_inventory.py --negative-tests
python3 IndependentValidatorStress.py
lake update
git -C .lake/packages/mathlib rev-parse HEAD
sha256sum .lake/packages/mathlib/Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean lake-manifest.json
lake env lean --version
lake build
/home/codex/.codex/skills/referee-lean-proof/scripts/check_lean_file.sh QB001Independent.lean
/home/codex/.codex/skills/referee-lean-proof/scripts/check_lean_file.sh DEF001Independent.lean
git ls-remote https://github.com/actions/checkout.git refs/tags/v5
git ls-remote https://github.com/leanprover/lean-action.git refs/tags/v1
git -C /home/codex/Documents/Codex/2026-09-05/yo ls-tree -r --name-only 1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9
```

Observed results: exact commit resolution passed; the deterministic inventory found four Lean files/30 lines/no declarations/no trust markers; positive inventory validation passed; all 25 built-in negative fixtures passed; the independent composed suite passed 2 positives and 5 negatives; dependency HEAD/source digest matched; Lean version was 4.33.1; the public package build passed; both independent declaration suites compiled with clean allowed-axiom reports; and both action tag refs matched the pinned SHAs.

## Final judgment

The specification is unusually disciplined about the distinction between finite mathematics, source coverage, named-function identification, qualitative recovery, and authorization. The exact bootstrap is bounded, its states are truthful, the artifacts and pins reproduce, the QB proof is mathematically and mechanically feasible at its frozen signatures, the Gamma wrapper surface exactly matches the pinned source, and the structural `not_applicable` decisions are justified. The source-manifest validator survives both its own adversarial suite and independent composed transition tests, including same-manifest role closure and cross-manifest anti-laundering.

**Final verdict: approve the architecture, QB-001 card R7, QB-001 NLP R6, and DEF-001 card R4; confirm the specified QB structural and DEF NLP/structural gates as `not_required`; permit the external adjudicator to decide `lean_ready` once the exact external bindings and required independent-review quorums are verified. This report does not itself set `lean_ready` and does not authorize any implementation beyond an externally passing gate.**

**Comment by jaumededios** [comment]
# Fresh implementation review — `/root/impl_final_p`

## Decision

**Approve** the exact candidate `515b742f7ad5472c17cfdf0fda7cbc83c5585da1` against frozen specification/base `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9` for every required implementation rubric:

- QB-001: `quantitative_correctness`, `mathlib_reuse`, `api_dependency`, `proof_quality`.
- DEF-001: `source_fidelity`, `mathlib_reuse`, `api_dependency`, `proof_quality`.

No P0, P1, P2, or P3 finding remains. QB-001 `source_fidelity` is packet-level **not applicable** because the frozen packet is original reusable infrastructure with no external-source claim. DEF-001 `quantitative_correctness` is packet-level **not applicable** because the slice contains no quantitative error bound.

The predecessor DEF-001 finding `M1` is independently verified repaired at this head and is marked **`resolved_by_fresh_approval`**. This verdict does not itself establish the packet-wide three-reviewer implementation quorum or authorize merge; that is the merger/adjudicator's structural check.

## Review identity and isolation

- Reviewer: `/root/impl_final_p`; kind `agent`; model `gpt-5.6-sol`; runtime `OpenAI Codex desktop`.
- Review stage: `implementation`.
- Isolation strength: `manual_attestation`.
- Repository source was read only from fresh disposable `git archive` extractions of the base, rejected predecessor, and exact head under `/tmp/lmlf-impl-final-p.q9LaMq64/`. I did not inspect the live worktree and did not read any predecessor referee narrative or predecessor verdict JSON.
- The build populated `.lake` inside the disposable head extraction. Two review-only Lean checker files were added only to that disposable copy. No candidate source, envelope, proposer report, or disposition file was edited.

Independently reproduced identities:

```text
head commit       515b742f7ad5472c17cfdf0fda7cbc83c5585da1
head parent       3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6
head tree         1d7c671375da286295467428bf563b876dd1dc73
head archive      707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4
base commit       1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9
base-to-head diff 4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102
Lean              4.33.1, commit 819816b2e0a3bf405af45ae5c7af2491d8f5bee6
Mathlib           0df444a360eaa60ab8c11dca51a86af692955474
```

The candidate envelopes reproduce their supplied ordinary SHA-256 digests:

```text
a04999c678029a8125a919893b202c6555ac04517e2511c5dd3695d587f9ca8d  QB-001-review-envelope.yaml
d482eb4e15125ce815bca407d0cabca3b52368695913fd3672a8889ba232ceb9  DEF-001-review-envelope.yaml
2fe11b62dca1a5994df3d3847097401a1dd9591651d4a5a54996643c95717aef  bootstrap_implementer.md
0d8689d1e8034d741591c2e980733805ce8294e58ff624bf57e1fde0275ad5f2  predecessor_disposition.md
```

Both candidate envelopes bind the exact base/head, toolchain, classification artifact, proposer report, and frozen packet/card/proof digests. Their pre-Lean `lean_ready` states are `pass`. Every referenced external pre-Lean verdict and narrative hash also reproduces the digest recorded in the envelopes. The external frozen-spec envelopes reproduce `dbcf16ab...` (QB) and `1cb983db...` (DEF), and the authorization record reproduces `f30686bd...`.

## Frozen specification integrity and bounded surface

The base and head archive trees are byte-identical under `blueprint/`, `review/`, `scripts/`, and `.github/`. Thus the candidate changed no frozen packet, card, signature artifact, QB natural-language proof, classification, rubric, validator, inventory, or CI file.

The frozen artifact digests independently reproduce exactly:

```text
7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39  review/work_packets/QB-001.yaml
6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8  review/work_packets/DEF-001.yaml
827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667  blueprint/theorem_cards/QB-001.yaml
93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39  blueprint/theorem_cards/QB-001-signatures.md
42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589  blueprint/proofs/QB-001.md
eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa  blueprint/theorem_cards/DEF-001.yaml
8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9  review/classifications-v2.json
```

Source enumeration finds exactly the frozen eight QB declarations in `LMLF/Quantitative/Basic.lean` and exactly the frozen four DEF declarations in `LMLF/Definitions/Gamma.lean`, in the required order. It finds no additional `def`, `theorem`, `lemma`, `abbrev`, `axiom`, `opaque`, `instance`, `class`, `structure`, or `inductive` declaration in either semantic module. Compiled `#check @...` output confirms every binder order, implicit binder, namespace, domain, coercion, majorant, conclusion orientation, and DEF integral normalization matches the frozen signatures.

The nine declarations in `LMLF/Audit/Definitions.lean` are audit-only consumers and do not enlarge the semantic surface. The complete base-to-head changed path set is exactly the seven declared paths: the two new semantic modules, the audit module, two semantic umbrellas, `README.md`, and `lakefile.toml`.

## QB-001 rubric results

### Quantitative correctness — approve

`ErrorOn` and `NormBoundOn` are the specified pointwise inequalities on arbitrary sets. `HasErrorFamily` quantifies one fixed target `f` over all natural indices while allowing the approximant, domain, and real majorant to depend on the index; it adds no convergence, finiteness, monotonicity, or compatibility assertion.

The five proofs use exactly their stated assumptions. `exact` rewrites equality on the domain to norm zero. `restrict` transports membership only along `D' ⊆ D`. `weaken` uses the correctly oriented comparison `b ≤ d` on `D`. `trans` first establishes the exact additive decomposition with `sub_add_sub_cancel`, then applies `norm_add_le` and pointwise addition of the two bounds. `comp` requires and uses `Set.MapsTo ψ S D` and pulls back the target, approximant, and majorant uniformly.

No nonnegativity premise is hidden: the predicates intentionally accept arbitrary real-valued majorants, while a satisfied bound forces nonnegativity at points in its domain. Empty-domain validity remains explicitly generic and is not presented as a concrete application.

The compiled adversarial file verifies: empty-domain truth does not extend to `Set.univ`; weakening cannot run toward a smaller majorant; two successive unit errors cannot be bounded by one; `HasErrorFamily` admits a deliberately worsening family and therefore promises no convergence; and the fixed-target/order semantics elaborate as specified. These probes found no counterexample to a target.

### Mathlib reuse — approve

The pinned Mathlib source contains no declaration named `ErrorOn`, `NormBoundOn`, or `HasErrorFamily`. The local three-predicate seam is justified as project infrastructure and is used by the five transport declarations and audit consumer. It reuses canonical `Set.EqOn`, `Set.MapsTo`, `NormedAddCommGroup`, function composition, subtraction, and `norm_add_le`; it does not duplicate a Mathlib object or introduce an adapter-heavy universal structure. `LMLF.Basic` is the narrow permitted import and resolves the required APIs at the pin.

### API/dependency — approve

All eight public names, namespaces, typeclass assumptions, implicitness, and conclusion shapes match SIG-QB-001-R2 exactly. `HasErrorFamily` is neutrally named and does not falsely claim a finite expansion. No prospective theorem from the long QB proof dossier leaked into this packet. The sole semantic import is `LMLF.Basic`; no definition catalogue or specialized analytic layer flows into the quantitative foundation.

The actual maintained consumers are the audit regressions and `LMLF.Results`, which is in turn reachable from `LMLF.lean`. No cycle or downstream-to-foundation edge exists.

### Proof quality — approve

The proofs are short, deterministic, mathematically legible, and do not rely on broad automation, incidental hypothesis order, representation hacks, global simp attributes, resource overrides, or totalized analytic operations. The three frozen QB audit regressions compile from the public API and protect empty-domain semantics, zero exactness, and additive transitivity. Every QB public declaration's `#print axioms` output is exactly `[propext, Classical.choice, Quot.sound]`, the packet allowlist.

## DEF-001 rubric results

### Source fidelity — approve

The checked-out dependency is exactly Mathlib commit `0df444a360eaa60ab8c11dca51a86af692955474`. Its `Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean` bytes reproduce the frozen source SHA-256 `720a9a72d742fbe1c9a89601dc3a00d82c0261c7368c98cccb58307dbffe3bbf`.

The implementation reuses the actual `Complex.Gamma`. For both convergence and identification, the parameter is complex with `0 < s.re`, the integration variable is real and restricted to `Set.Ioi 0`, and the exposed integrand is exactly `(Real.exp (-t) : ℂ) * (t : ℂ) ^ (s - 1)`. The positive-real domain avoids zero and the complex-power slit; there is no scale, sign, parameter-order, or coercion drift. The identification proof unfolds only `Complex.GammaIntegral` and invokes `Complex.Gamma_eq_integral` at the same domain.

`gamma_ofReal` has global real-input agreement with Mathlib's equally totalized real function. `gamma_neg_nat_eq_zero` covers `n = 0` as well as negative naturals and the module/card/README consistently describe zero as Mathlib's value at classical poles, not a finite classical Gamma value. The Euler identity is not extended outside its convergence half-plane.

The audit module consumes every public wrapper. Besides the expanded Euler formula, it checks integrability, real agreement, conjugation, nonpositive-integer totalization, and normalization at one. The compiled counterexample probes confirm the half-plane hypothesis is false at `s = 0` and confirm wrapper behavior at both `0` and `-1`.

### Mathlib reuse — approve

The four wrappers are direct matches for the pinned `Complex.GammaIntegral_convergent`, `Complex.Gamma_eq_integral`, `Complex.Gamma_ofReal`, and `Complex.Gamma_neg_nat_eq_zero`. Their hypotheses, orientation, implicitness, coercions, domains, and normalization were compared with the actual pinned source. The semantic file uses the narrow required import `Mathlib.Analysis.SpecialFunctions.Gamma.Basic`. A repository-wide duplicate search over `LMLF` finds no project `def`, `abbrev`, or `opaque` Gamma and no assignment to `Complex.Gamma`.

### API/dependency — approve

All four public signatures match TC-DEF-001-R4 and the packet exactly; there is no fifth semantic declaration and no out-of-scope reciprocal/incomplete Gamma, reflection, duplication, recurrence, Stirling, or asymptotic result. `LMLF.Definitions.Gamma` feeds the definitions umbrella, then results/applications; it imports no quantitative, audit, tactic, comparison, or asymptotic module. The audit module imports the semantic umbrellas and is not imported by any semantic module or by `LMLF.lean`.

`lakefile.toml` explicitly includes both new semantic modules and the separate audit module, so the audit is maintained even though it is intentionally absent from the semantic root. The README accurately labels the declarations as candidate, not accepted or released, describes the audit separation, and makes no source-coverage claim.

### Proof quality — approve

Every wrapper uses the named pinned theorem directly; the sole normalization rewrite uses a constrained `simpa only [Complex.GammaIntegral]`. There is no broad unfolding, hidden regularity assumption, choice wrapper, custom tactic, brittle generated name, or proof-sized hypothesis object.

Most importantly, independent predecessor/head archive comparison shows the sole superseding change replaced `exact Complex.Gamma_one` with a rewrite by `LMLF.Definitions.gamma_eq_eulerIntegral` at `s = 1`, followed by `Complex.GammaIntegral_one`. Compiled `#print` gives a proof term containing both declarations:

```text
Eq.mpr (... (LMLF.Definitions.gamma_eq_eulerIntegral ...))
  Complex.GammaIntegral_one
```

Thus `LMLFTest.Definitions.Gamma.eulerAtOne` genuinely tests the public wrapper and Mathlib's canonical Euler-integral normalization. `M1` is therefore **`resolved_by_fresh_approval`** at the exact reviewed head.

Every DEF public declaration and `eulerAtOne` reports exactly `[propext, Classical.choice, Quot.sound]`, within the frozen allowlist.

## Build, validation, and trust evidence

All commands ran in the disposable exact-head archive:

```text
lake build
  Build completed successfully (2756 jobs).

lake env lean LMLF/Quantitative/Basic.lean     # exit 0, no output
lake env lean LMLF/Definitions/Gamma.lean      # exit 0, no output
lake env lean LMLF/Audit/Definitions.lean      # exit 0, no output
lake env lean ImplFinalPChecks.lean             # exit 0
lake env lean ImplFinalPCounterexamples.lean    # exit 0, no output

python3 scripts/validate_inventory.py
  inventory validation passed: 24 occurrences, 2 notations, 10 entities,
  10 entity evidence rows, 16 occurrence associations; classification examples
  [DEF-001, OLV-001, QB-001, QL-001, SR-001]; manifest totals
  [BOOTSTRAP-0=0, DEMO-0=0, OLV-MVP-1=1]

python3 scripts/validate_inventory.py --negative-tests
  negative invariant tests passed: 25 intentionally invalid copied fixtures rejected
  inventory validation passed: ...
```

The exact-base-to-head whitespace check exits 0 with no output. Searches of all candidate `LMLF` source for `sorry`, `admit`, `axiom`, `opaque`, or `unsafe` return no matches. The duplicate-Gamma search returns no matches. The compiled checker reports the exact frozen types and allowed axiom sets for all twelve public declarations.

## Findings and disposition

- Current-head findings: none.
- Prior finding `M1` (P2), limited to the predecessor's `eulerAtOne` consumer: `resolved_by_fresh_approval` at `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`.
- Final rubric decisions: eight `approve` verdicts; no `request_changes` or `block`.

Issued at `2026-09-05T20:22:40Z`.

**Comment by jaumededios** [comment]
# Fresh implementation review Q

**Reviewer:** `/root/impl_final_q`  
**Model:** `gpt-5.6-sol`  
**Stage:** implementation  
**Issued:** `2026-09-05T20:18:25Z`  
**Specification base:** `1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`  
**Reviewed head:** `515b742f7ad5472c17cfdf0fda7cbc83c5585da1`

## Outcome

**Approve all eight required implementation rubrics.** I found no P0, P1, or P2 issue.

- QB-001: `quantitative_correctness`, `mathlib_reuse`, `api_dependency`, and
  `proof_quality` approve.
- DEF-001: `source_fidelity`, `mathlib_reuse`, `api_dependency`, and
  `proof_quality` approve.
- QB-001 `source_fidelity` is packet-level **not applicable** because this is original reusable
  infrastructure with no source claim.
- DEF-001 `quantitative_correctness` is packet-level **not applicable** because the packet
  contains no quantitative error bound.

The predecessor M1 finding is **resolved_by_fresh_approval** at the reviewed head. The corrected
`LMLFTest.Definitions.Gamma.eulerAtOne` proof genuinely exercises the public
`LMLF.Definitions.gamma_eq_eulerIntegral` wrapper and then Mathlib's canonical
`Complex.GammaIntegral_one` normalization theorem.

## Exact review binding and isolation

The review used a fresh agent context and disposable archives extracted directly from Git objects;
the live repository worktree was not used as the source snapshot. The candidate and specification
archives were rooted at `/tmp/impl-final-q-YhyqVP/candidate` and
`/tmp/impl-final-q-YhyqVP/base`. Generated dependency/build data and a temporary Lean checker were
confined to the disposable candidate archive; the checker was removed after use. The candidate
sources were not patched.

This is a **manual attestation**, not technically enforced clean-room isolation. The runtime had
general filesystem and network capability. Review conclusions were independently derived from the
two archived commits, the pinned dependency source, the frozen governance/specification artifacts,
and only these current external candidate artifacts:

- QB envelope:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/QB-001-review-envelope.yaml`,
  SHA-256 `a04999c678029a8125a919893b202c6555ac04517e2511c5dd3695d587f9ca8d`.
- DEF envelope:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/DEF-001-review-envelope.yaml`,
  SHA-256 `d482eb4e15125ce815bca407d0cabca3b52368695913fd3672a8889ba232ceb9`.
- Proposer report:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/bootstrap_implementer.md`,
  SHA-256 `2fe11b62dca1a5994df3d3847097401a1dd9591651d4a5a54996643c95717aef`.
- Predecessor disposition:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/predecessor_disposition.md`,
  SHA-256 `0d8689d1e8034d741591c2e980733805ce8294e58ff624bf57e1fde0275ad5f2`.

The envelopes bind the same base/head pair, Lean toolchain, Mathlib revision, frozen packets, cards,
proof/signature artifacts, classification schema, and passing pre-Lean `lean_ready` states.

## Frozen specification integrity and candidate scope

The candidate has tree `1d7c671375da286295467428bf563b876dd1dc73`; its sole parent is
`3dbfcc8ef8a2b2c9b721bbf8570493a112b413f6`. The deterministic candidate tar archive hashes to
`707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4`. The full-index
base-to-head diff hashes to
`4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102`.

The base-to-head change is exactly seven paths, 208 insertions and 16 deletions:

- added `LMLF/Audit/Definitions.lean`;
- modified `LMLF/Definitions.lean`;
- added `LMLF/Definitions/Gamma.lean`;
- added `LMLF/Quantitative/Basic.lean`;
- modified `LMLF/Results.lean`;
- modified `README.md`;
- modified `lakefile.toml`.

`git diff --quiet base head -- blueprint review scripts .github` returned zero, and direct
base/candidate hashing reproduced these immutable bindings:

| Artifact | SHA-256 |
|---|---|
| `review/work_packets/QB-001.yaml` | `7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39` |
| `review/work_packets/DEF-001.yaml` | `6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8` |
| `blueprint/theorem_cards/QB-001.yaml` | `827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667` |
| `blueprint/theorem_cards/QB-001-signatures.md` | `93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39` |
| `blueprint/proofs/QB-001.md` | `42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589` |
| `blueprint/theorem_cards/DEF-001.yaml` | `eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa` |
| `review/classifications-v2.json` | `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9` |

`git diff --check` was clean.

## Declaration and signature audit

`LMLF/Quantitative/Basic.lean` contains exactly the eight frozen QB declarations, in order:

1. `QuantitativeAnalysis.ErrorOn`
2. `QuantitativeAnalysis.NormBoundOn`
3. `QuantitativeAnalysis.HasErrorFamily`
4. `QuantitativeAnalysis.ErrorOn.exact`
5. `QuantitativeAnalysis.ErrorOn.restrict`
6. `QuantitativeAnalysis.ErrorOn.weaken`
7. `QuantitativeAnalysis.ErrorOn.trans`
8. `QuantitativeAnalysis.ErrorOn.comp`

`LMLF/Definitions/Gamma.lean` contains exactly the four frozen DEF declarations, in order:

1. `LMLF.Definitions.gamma_eulerIntegrable`
2. `LMLF.Definitions.gamma_eq_eulerIntegral`
3. `LMLF.Definitions.gamma_ofReal`
4. `LMLF.Definitions.gamma_neg_nat_eq_zero`

An independent Lean `#check @...` audit reproduced the frozen universes, implicit binders,
argument order, typeclass placement, domains, conclusions, function-composition orientation, and
implicit volume measure. There is no ninth QB semantic declaration, fifth DEF semantic declaration,
new Gamma object, instance, attribute, structure, abbreviation, or hidden helper declaration.

The separate audit module contains exactly nine named regression theorems: three QB consumers and
six Gamma consumers. They are transparently under `LMLFTest`, introduce no definitions, are not
imported by `LMLF.lean` or any semantic module, and do not enlarge either packet's semantic API.

## QB-001 quantitative rederivation

- `ErrorOn D f a b` is exactly `∀ x ∈ D, ‖f x - a x‖ ≤ b x`.
  `NormBoundOn` removes only the approximant, and `HasErrorFamily` quantifies `n` after one
  fixed target `f`; only `a n`, `D n`, and `b n` vary. It asserts neither finiteness nor
  convergence, compatibility, or monotone improvement in the order.
- Empty domains are intentionally allowed. Consequently a signed, even negative, majorant is
  harmless on an empty domain because the predicate is vacuous. At any occupied point where the
  predicate holds, nonnegativity follows from `0 ≤ ‖f x - a x‖ ≤ b x`; it need not be stored as a
  global definition field. Exact equality yields the zero majorant, not an arbitrary signed one.
- `ErrorOn.exact` rewrites the difference to zero using the supplied `Set.EqOn`; it makes no
  illicit claim about a negative bound.
- `restrict` applies only in the sound direction `D' ⊆ D`. `weaken` requires `b x ≤ d x`
  exactly on `D`; it does not strengthen to a smaller majorant.
- `trans` uses the exact additive identity
  `f-c = (f-a)+(a-c)`, the triangle inequality, and `add_le_add`. It retains the same
  intermediate `a`, common domain `D`, and exact sum majorant `b+d`; no unjustified maximum
  or cancellation appears.
- `comp` is precomposition, not nonlinear postcomposition. `Set.MapsTo ψ S D` transports each
  `y ∈ S` to the original domain and the conclusion is exactly
  `ErrorOn S (f ∘ ψ) (a ∘ ψ) (b ∘ ψ)`. No continuity, injectivity, or surjectivity premise is
  smuggled in.

The three required public-interface regressions compile: empty-domain vacuity, equality-to-zero
error, and the exact transitive sum. Their proofs consume the public declarations.

## DEF-001 source fidelity and reuse rederivation

The pinned dependency checkout is exactly Mathlib
`0df444a360eaa60ab8c11dca51a86af692955474`. Its
`Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean` bytes hash to the frozen source digest
`720a9a72d742fbe1c9a89601dc3a00d82c0261c7368c98cccb58307dbffe3bbf`.

Direct inspection of that source and the elaborated wrapper types confirms:

- `Complex.GammaIntegral_convergent` has binder `{s : ℂ}`, hypothesis `0 < s.re`, and
  `IntegrableOn` conclusion for exactly
  `(Real.exp (-t) : ℂ) * (t : ℂ) ^ (s - 1)` on `Set.Ioi 0`.
- `Complex.GammaIntegral` is the Bochner set integral of that same integrand on the positive real
  half-line, with no missing multiplicative or orientation factor.
- `Complex.Gamma_eq_integral` identifies the reused `Complex.Gamma` with
  `Complex.GammaIntegral` exactly on `0 < s.re`. The LMLF wrapper expands that definition via a
  narrow `simpa only [Complex.GammaIntegral]`; it asserts nothing through poles or outside the
  convergence half-plane.
- For positive real `t`, Mathlib's complex power uses its standard complex-power convention and
  the pinned convergence proof explicitly uses membership in the slit plane; `t > 0` avoids zero
  and the cut.
- `Complex.Gamma_ofReal` gives whole-real-line agreement with `Real.Gamma`, including the common
  totalization convention.
- `Complex.Gamma_neg_nat_eq_zero` states `Gamma (-(n : ℂ)) = 0` for every natural `n`,
  including `n = 0`. The candidate accurately documents these inputs as classical poles whose
  assigned Lean value is a totalization convention, not a classical finite Gamma value.

The repository and pinned Mathlib searches found no pre-existing declarations with the three QB
project-local names and no project-local Gamma definition. DEF therefore reuses the canonical
`Complex.Gamma` object and its exact pinned theorems rather than duplicating analytic
infrastructure.

## M1 verification and disposition

The predecessor-to-head diff changes only `LMLF/Audit/Definitions.lean`, replacing
`exact Complex.Gamma_one` with:

```lean
rw [LMLF.Definitions.gamma_eq_eulerIntegral (s := 1) (by norm_num)]
simpa only [Complex.GammaIntegral] using Complex.GammaIntegral_one
```

Independent `#print` output for the elaborated theorem is, essentially,
`Eq.mpr (congrArg (fun a => a = 1) (LMLF.Definitions.gamma_eq_eulerIntegral ...))
Complex.GammaIntegral_one`. Thus the kernel term contains the public LMLF identification theorem;
the check can no longer pass merely because the unrelated direct theorem `Complex.Gamma_one`
exists. Its axiom report is exactly `[propext, Classical.choice, Quot.sound]`.

**Disposition:** `M1` — `resolved_by_fresh_approval` at
`515b742f7ad5472c17cfdf0fda7cbc83c5585da1`.

## API, dependency, globs, and documentation

The import graph is acyclic and follows the frozen layer boundary:

```text
Mathlib.Analysis.Normed.Group.Basic -> LMLF.Basic -> LMLF.Quantitative.Basic
Mathlib.Analysis.SpecialFunctions.Gamma.Basic -> LMLF.Definitions.Gamma -> LMLF.Definitions
LMLF.Definitions + LMLF.Quantitative.Basic -> LMLF.Results -> LMLF
LMLF.Definitions + LMLF.Quantitative.Basic -> LMLF.Audit.Definitions
```

No semantic module imports `LMLF.Audit.Definitions`; the audit is a downstream, separately built
consumer. Definitions do not depend on the quantitative layer, applications, source-recovery
audits, or tactics. The quantitative core does not depend on any named special function.

`lakefile.toml` explicitly globs the root, basic, definitions umbrella and Gamma family,
quantitative basic, results umbrella, and audit module. A clean project build produced the
corresponding seven `.olean` files, including `LMLF.olean` and the separate audit artifact.
`README.md` accurately calls this a candidate awaiting implementation review and release, lists
the semantic and audit layout, and makes no source-coverage or release claim.

## Build, inventory, trust, and regressions

- Lean: `4.33.1`, compiler commit
  `819816b2e0a3bf405af45ae5c7af2491d8f5bee6`.
- Resolved Mathlib: `0df444a360eaa60ab8c11dca51a86af692955474`.
- From the disposable archive: `lake update`; `lake clean`; pinned cache hydration with
  `lake exe cache get`; then `lake build`.
- Final build: success, `2748` jobs; all seven LMLF modules compiled, including the audit.
- Targeted deterministic checks:
  `check_lean_file.sh LMLF/Quantitative/Basic.lean`,
  `check_lean_file.sh LMLF/Definitions/Gamma.lean`, and
  `check_lean_file.sh LMLF/Audit/Definitions.lean`; all exited zero with no diagnostics.
- Inventory validation: success with 24 occurrences, 2 notations, 10 entities, 10 entity-evidence
  rows, 16 occurrence associations, and the required classification examples.
- Negative inventory suite: all **25** intentionally invalid copied fixtures were rejected, then
  the positive inventory revalidated.
- Trust scan over all committed LMLF source found no `sorry`, `admit`, `axiom`, `opaque`,
  `unsafe`, `maxHeartbeats`, or `maxRecDepth`.
- Independent `#print axioms` for every one of the twelve semantic declarations reported exactly
  `propext`, `Classical.choice`, and `Quot.sound`, all on the frozen allowlist, and no other
  axiom.

## Rubric conclusions

### QB-001

- **quantitative_correctness — approve.** Exact definitions, empty/signed-majorant behavior,
  fixed-target family quantifiers, restriction/weakening directions, additive transitivity, and
  precomposition transport are all correct.
- **mathlib_reuse — approve.** Canonical set, norm, subtraction, triangle, and function-composition
  infrastructure is reused through the narrow `LMLF.Basic` import; no pinned Mathlib duplicate of
  the project-local API was found.
- **api_dependency — approve.** All eight exact signatures and only those semantic declarations
  are present; naming, binder order, namespace, import direction, umbrellas, globs, audit boundary,
  and documentation agree with the frozen packet.
- **proof_quality — approve.** Proofs are short, deterministic, mathematically legible, narrowly
  simplified, axiom-compliant, and covered by the required regressions. No resource override or
  brittle broad automation is present.

### DEF-001

- **source_fidelity — approve.** The wrappers exactly reproduce the pinned Gamma object, Euler
  integrand, convergence half-plane, normalization, real agreement, and pole-totalization
  convention without overclaiming continuation or classical pole values. The repaired
  `eulerAtOne` is an independent normalization check through the public API.
- **mathlib_reuse — approve.** The candidate defines no new Gamma and wraps precisely the four
  frozen pinned declarations through the narrow Gamma Basic import.
- **api_dependency — approve.** Exactly four semantic declarations occur in the family module;
  definitions feed the public umbrella, the audit remains downstream, and no later Gamma family or
  asymptotic milestone is smuggled in.
- **proof_quality — approve.** All wrapper proofs and regression consumers compile cleanly, their
  dependencies are explicit and stable, the M1 proof-term dependency is verified, and all axiom
  reports stay within the allowlist.

## Findings

None.

**Comment by jaumededios** [comment]
# BOOTSTRAP-0 fresh implementation referee R

Reviewer: `/root/impl_final_r`  
Kind/model: agent, `gpt-5.6-sol`  
Stage: implementation  
Issued: `2026-09-05T20:11:05Z`

## Outcome

Approve all eight applicable implementation rubrics at candidate
`515b742f7ad5472c17cfdf0fda7cbc83c5585da1` against frozen specification base
`1a7a1864e3f7c343b8c6f90511689d7a7b1a88d9`:

- QB-001: `quantitative_correctness`, `mathlib_reuse`, `api_dependency`, `proof_quality`.
- DEF-001: `source_fidelity`, `mathlib_reuse`, `api_dependency`, `proof_quality`.

No P0, P1, or P2 finding remains. QB-001 `source_fidelity` is correctly not applicable because
the packet is original reusable infrastructure with no source claim. DEF-001
`quantitative_correctness` is correctly not applicable because the packet contains no quantitative
error bound.

The predecessor finding `M1` is **resolved_by_fresh_approval** for this head. The repaired
`LMLFTest.Definitions.Gamma.eulerAtOne` proof uses the public
`LMLF.Definitions.gamma_eq_eulerIntegral` wrapper and Mathlib's canonical
`Complex.GammaIntegral_one`; its elaborated proof term contains both dependencies.

This is one referee's set of rubric verdicts. It does not by itself establish the packet's required
multi-reviewer quorum or change either external envelope's pending implementation/merge gate.

## Exact review binding

- QB envelope:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/QB-001-review-envelope.yaml`,
  SHA-256 `a04999c678029a8125a919893b202c6555ac04517e2511c5dd3695d587f9ca8d`.
- DEF envelope:
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/DEF-001-review-envelope.yaml`,
  SHA-256 `d482eb4e15125ce815bca407d0cabca3b52368695913fd3672a8889ba232ceb9`.
- Proposer evidence (untrusted input):
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/bootstrap_implementer.md`,
  SHA-256 `2fe11b62dca1a5994df3d3847097401a1dd9591651d4a5a54996643c95717aef`.
- Predecessor disposition (untrusted input):
  `/home/codex/Documents/Codex/2026-09-05/LMLF-review-evidence/candidate-515b742f7ad5472c17cfdf0fda7cbc83c5585da1/predecessor_disposition.md`,
  SHA-256 `0d8689d1e8034d741591c2e980733805ce8294e58ff624bf57e1fde0275ad5f2`.
- Head tree: `1d7c671375da286295467428bf563b876dd1dc73`.
- Deterministic head archive SHA-256: `707662db3b03778cf4c7208e81a17c56140fcb2616796ccbbfb6114ea90801f4`.
- Base tree: `33932352e1d514cbd604a16a947dfc6d99d80a97`.
- Deterministic base archive SHA-256: `28ffebb6d79cc8c6c327c201139388298406450cec2b4578850f50e32477162a`.
- Full-index base-to-head diff SHA-256:
  `4e08f221bf3a162e90ff3c4007fb1a061f575dac1a095492357c54dbf5d7b102`.
- Lean toolchain: `leanprover/lean4:v4.33.1`.
- Resolved Mathlib: `0df444a360eaa60ab8c11dca51a86af692955474`.

The envelopes bind the exact frozen artifacts reproduced below:

| Artifact | SHA-256 |
|---|---|
| `review/work_packets/QB-001.yaml` | `7a56a1695d15ea2cedd525ee4270d20830e1706827bb592dfde293bcd7d54c39` |
| `review/work_packets/DEF-001.yaml` | `6dbda13f4f27dd4c0492c00ecc0a2d184f00fe85fa7096802cf93e9fdecf11e8` |
| `blueprint/theorem_cards/QB-001.yaml` | `827522349afc7374a8bec60b3d281c192a44189f8e8c08c24e453bf75e215667` |
| `blueprint/theorem_cards/QB-001-signatures.md` | `93e4e30a93087de95342abdb1e986676924cd93512e771737d0d3f3ed7973b39` |
| `blueprint/proofs/QB-001.md` | `42b027310a56ff70f4c56471de527aa9b6a3ac88810ad3ba17029953514c1589` |
| `blueprint/theorem_cards/DEF-001.yaml` | `eff82b06afaa61b67d13c3a399494525ed452e42c203a390ba40e56b93ec9daa` |
| `review/classifications-v2.json` | `8c9f8dbb5ab351771a433a9901fe176a66ec214092c5d5880b3ec57c9a5b23e9` |

The full 1,753-line Olver implementation brief was read from the attached snapshot, SHA-256
`6787cdb628a66783d81190939e9593525ebb2640a8c870d685d95ce26ba0cce3`.
The archived protocol and all five current repository rubrics were also read in full.

## Isolation and reproduced checks

The base and head Git objects were exported with `git archive` to
`/tmp/impl-final-r.J4uy2O/{base,head}`. Candidate inspection was confined to those exported bytes.
The live repository worktree, prior implementation-review report/JSON contents, and P/Q outputs
were not inspected. The pinned dependency checkout was used only as the Mathlib source/build cache;
its HEAD and relevant source digest were independently verified. Build products and two referee
probe files were created only in the disposable head archive. This is a manual attestation, not a
technically enforced clean-room boundary.

Independent checks established:

- `base..head` changes exactly seven implementation/documentation/build paths and changes no file
  under `blueprint`, `review`, `scripts`, or `.github`; `git diff --check` is clean.
- A fresh exported-tree `lake build` completed successfully with 2,748 jobs. After the build, all
  three direct compiles passed: `LMLF/Quantitative/Basic.lean`,
  `LMLF/Definitions/Gamma.lean`, and `LMLF/Audit/Definitions.lean`. A pre-build direct attempt in
  the empty archive lacked the project-local prerequisite oleans; the full build created them, and
  the required direct checks then passed without candidate-source changes.
- `python3 scripts/validate_inventory.py` passed. The `--negative-tests` run rejected all 25
  intentionally invalid fixtures and then passed the inventory validation.
- Trust searches found no `sorry`, `admit`, declaration-level `axiom`, `opaque`, or `unsafe` in the
  two semantic modules or the audit module. A repository search found no project-local Gamma
  definition or assignment.
- Source enumeration found exactly eight semantic declarations in
  `LMLF/Quantitative/Basic.lean` and exactly four in `LMLF/Definitions/Gamma.lean`, with no extra
  declaration form. Compiler `#check @...` output matches every frozen binder, implicit argument,
  domain, majorant, normalization, coercion, and conclusion.
- All twelve public semantic axiom reports are exactly
  `[propext, Classical.choice, Quot.sound]`, the packet allowlist. `eulerAtOne` has the same axiom
  set.
- The adversarial probes confirmed empty-domain vacuity, a nonconvergent constant
  `HasErrorFamily`, exact additive transitivity, precomposition transport with `Set.MapsTo`, Euler
  integrability and equality at `s = 1`, and pole totalization at `n = 0` and `n = 7`.

## Rubric conclusions

### QB-001

- `quantitative_correctness`: the definitions preserve a fixed target in `HasErrorFamily`; the
  five lemmas have the required direction, domain, and exact majorants. No convergence, source,
  nonemptiness, or hidden-sign claim is added. Order-zero and empty-domain semantics are valid.
- `mathlib_reuse`: the implementation uses the existing `Set.EqOn`, `Set.MapsTo`,
  `NormedAddCommGroup`, `norm_add_le`, and additive identity infrastructure through the permitted
  narrow `LMLF.Basic` import. No redundant abstraction or heavy umbrella is introduced.
- `api_dependency`: the exact 8-declaration public surface and signatures match the packet. The
  namespace and foundational import direction are correct; audit consumers are downstream and
  absent from the semantic root.
- `proof_quality`: proofs are short, deterministic, expose the only real mathematical step in
  `trans`, build without warnings, and use no trust escape. The three required QB audit regressions
  consume the public declarations.

### DEF-001

- `source_fidelity`: the object is exactly Mathlib's `Complex.Gamma`. The Euler integrand and
  half-plane `0 < s.re`, real agreement, and negative-natural totalization all match the pinned
  source. The documentation explicitly distinguishes totalized zero from a classical finite pole
  value and does not extend the Euler identity beyond its convergence domain.
- `mathlib_reuse`: pinned
  `Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean` is at
  `0df444a360eaa60ab8c11dca51a86af692955474` with SHA-256
  `720a9a72d742fbe1c9a89601dc3a00d82c0261c7368c98cccb58307dbffe3bbf`.
  Each wrapper is a direct bridge to the named canonical declaration; no Gamma implementation is
  duplicated.
- `api_dependency`: exactly four semantic wrappers occupy the family module, imported by the
  definitions umbrella. Results imports the quantitative and definition surfaces. The audit is a
  separately built non-root consumer. Lake globs and README accurately describe this candidate
  architecture.
- `proof_quality`: all four proofs are transparent and axiom-compliant. The audit checks the
  expanded formula, integrability, real coercion, conjugation, pole convention, and normalization.
  The corrected `eulerAtOne` now exercises the public Euler wrapper and the canonical integral
  normalization, resolving `M1`.

## Findings

None at P0-P2. Verdict: **approve** for all eight applicable rubrics.
